### PR TITLE
Numeral notations for non inductive types

### LINKED ISSUE #12035: Numeral Notations and String Notations should support inductive type families, not just inductive types
Currently numeral and string notations support only inductive types.  That is, the following does not work:
```coq
Notation string := (list Byte.byte).
Definition id_string := @id string.

String Notation string id_string id_string : list_scope.

Check "abc"%list.
```
As far as I'm aware, there's only one semi-fundamental reason for this limitation: The entry points to uninterpretation (pretty-printing) are the constructors of the inductive type.  cf https://github.com/coq/coq/blob/04292ee5af69f168d31345119e25226eadee8ae8/interp/notation.mli#L164-L171
We could say that the `hnf` of the string/numeral notation type has to be an inductive type family, and we use the constructors of that type as entry points.  Or we could create an extension to string/numeral notations where the user can explicitly give the entry points as a list of references, and this is required whenever the `hnf` of the type is not an inductive type family.

----

Moving past this, there are a couple of technical changes that would need to be made to lift this limitation; it's currently implemented in:
1. The vernacular only parses a `reference`; cf https://github.com/coq/coq/blob/04292ee5af69f168d31345119e25226eadee8ae8/plugins/syntax/g_string.mlg#L22 and https://github.com/coq/coq/blob/04292ee5af69f168d31345119e25226eadee8ae8/plugins/syntax/g_numeral.mlg#L37
2. The primitive token types only know how to store `GlobRef.t`, cf https://github.com/coq/coq/blob/04292ee5af69f168d31345119e25226eadee8ae8/interp/notation.mli#L148-L154
3. The code for registering the entry points currently uses the list of constructors of the inductive type, cf https://github.com/coq/coq/blob/04292ee5af69f168d31345119e25226eadee8ae8/plugins/syntax/numeral.ml#L118
https://github.com/coq/coq/blob/04292ee5af69f168d31345119e25226eadee8ae8/plugins/syntax/numeral.ml#L169 
https://github.com/coq/coq/blob/04292ee5af69f168d31345119e25226eadee8ae8/plugins/syntax/string_notation.ml#L66
https://github.com/coq/coq/blob/04292ee5af69f168d31345119e25226eadee8ae8/plugins/syntax/string_notation.ml#L95
4. The error message saying "You need to require this module to get this notation" is currently computed from the inductive type, cf
https://github.com/coq/coq/blob/04292ee5af69f168d31345119e25226eadee8ae8/plugins/syntax/numeral.ml#L168
https://github.com/coq/coq/blob/04292ee5af69f168d31345119e25226eadee8ae8/plugins/syntax/string_notation.ml#L94
It's possible that this doesn't make much sense for user-declared numeral/string notations, which cannot be imported without transitively requiring the relevant inductive types.  So this bit might be somewhat dead for non-built-in syntax notations.

-------

Separately, there is the question of if we should support non-fully-instantiated type families.  There was [a question was raised on discourse about supporting numeral notations for `Fin.t`](https://coq.discourse.group/t/numeral-notation-for-fin-t/748), e.g., it would be nice if this worked:
```coq
Require Coq.Vectors.Fin.

Definition fin_to_uint {m} (n : Fin.t m) : Decimal.uint
  := Nat.to_uint (proj1_sig (Fin.to_nat n)).

Definition fin_of_uint {m} (n : Decimal.uint) : option (Fin.t m)
  := match Fin.of_nat (Nat.of_uint n) m with
     | inleft v => Some v
     | inright _ => None
     end.

Declare Scope fin_scope.
Delimit Scope fin_scope with fin.
Numeral Notation Fin.t fin_of_uint fin_to_uint : fin_scope.
```
This would require a more drastic change to the numeral/string machinery: it would need to recognize non-fully-applied inductive type families, check that the type signature of the (un)interp functions matches universal quantification over the arguments to the type family, and fill in the arguments to the functions either with the appropriate number of holes, or else with arguments pulled from the type of the term being uninterpreted.

There is no reason this could not be done, though.

(If someone else unfamiliar with the code wants to work on implementing this, I'm happy to point out the locations in the codebase where each of these things needs to be done, and to explain how the current code works.)

---------------

cc @herbelin @proux01 @letouzey @roglo

### PR DESCRIPTION
**Pull request by proux01**
Closes #12035

#### Numeral notations for parameterized inductives

This handles the first example of #12035
```Coq
Notation string := (list Byte.byte).
Definition id_string := @id string.

String Notation string id_string id_string : list_scope.

Check "abc"%list.
```

#### Numeral Notation non_inductive via inductive using ...

The main idea is to use actual inductive types that map what you want to parse/print and just translate to (resp. from) the actual type from (resp. to) this inductive type after calling the parser (resp before the printer). One then just has to provide a mapping from globrefs of the actual type to constructors of the inductive type.

For instance, for reals, that looks something like
```Coq
Inductive IZ :=
| IZpow_pos : Z -> positive -> IZ
| IZ0 : IZ
| IZpos : positive -> IZ
| IZneg : positive -> IZ.

Inductive IR :=
| IRZ : IZ -> IR
| IRQ : Q -> IR
| IRmult : IR -> IR -> IR
| IRdiv : IR -> IR -> IR.

[..]  (* define parser numeral_to_IR and printer IR_to_numeral *)

Numeral Notation R via IR
  using (IZR IRZ, Q2R IRQ, Rmult IRmult, Rdiv IRdiv,
         Z.pow_pos IZpow_pos, Z0 IZ0, Zpos IZpos, Zneg IZneg)
  numeral_to_IR IR_to_numeral : R_scope.
```

##### Implicit parameters

Implicit arguments in the constructors are ignored in the inductive type before printing (uninterpreting) whereas they are replaced by implicit argument holes after parsing (interpreting). Thus the constructors of `Vector.Fin.t`, which have type
```Coq
Fin.F1 : forall {n : nat}, Fin.t (S n)
Fin.FS : forall {n : nat}, Fin.t n -> Fin.t (S n)
```
are parsed through the inductive type
```Coq
Inductive I :=
| I1 : I
| IS : I -> I.
```
I'm not entirely satisfied with this solution though. My main issue is that inductive `I` must be mapped to `Fin.t _`. Currently, this is done by simply ignoring all arguments of a type when one of its "constructors" (things listed in the using mapping list) has an implicit argument. This works here but is a very crude heuristic and it could probably be exploited to register numeral notations that could produce terms that are not well typed.

Two notations are provided as examples for `Q` and `R`.

#### Q

Previously rationals were all parsed as a pair numerator, denominator. This means `1.02` and `102e-2` were both parsed as `102 # 100` and could not be tell apart when printing. So the printer had to choose between two representations : without exponent or without decimal dot. The choice was made heuristically toward a most compact representation.
    
Now, decimal dot is still parsed as a power of ten denominator but exponents are parsed as a product or division by `Z.pow_pos`. For instance, `1.02` is parsed as `102 # 100` whereas `102e-2` is parsed as `(102 # 1) / (Z.pow_pos 10 2 # 1)`.

`1.02` and `102e-2` remain equal (proved by reflexivity) but `1.02e1 = (102 # 100) * (10 # 1) = 1020 # 100` and `10.2 = 102 # 10` no longer are.

A nice side effect is that exponents can no longer blow up during parsing. Previously `1e1_000_000` literally produced a numerator with a million digits, now it just yields `(1 # 1) * (Z.pow_pos 10 1_000_000 # 1)`.

#### R

Previously real constants were parsed by an unproved OCaml code. The parser and printer are now implemented in Coq, which will enable a proof and hopefully make it easier to maintain / make evolve.
    
Previously reals were all parsed as an integer, an integer multiplied by a power of ten or an integer divided by a power of ten. This means `1.02` and `102e-2` were both parsed as `102 / 100` and could not be tell apart when printing. So the printer had to choose between two representations : without exponent or without decimal dot. The choice was made heuristically toward a most compact representation.
    
Now, decimal dot is parsed as a rational and exponents are parsed as a product or division by a power of ten. For instance, `1.02` is parsed as `Q2R (102 # 100)` whereas `102e-2` is parsed as `IZR 102 / IZR (Z.pow_pos 10 2)`.

`1.02` and `102e-2` remain equal (proved by reflexivity) but `1.02e1 = Q2R (102 # 100) * 10` and `10.2 = Q2R (102 # 10)` no longer are.

#### TODO

~Depends from: #11948~
~Depends from: #12979~

- [x] prove numeral notation for `Q`
- [x] prove numeral notation for `R`
- [x] Added / updated test-suite
- [x] Corresponding documentation was added / updated (including any warning and error messages added / removed / modified).
- [x] Entry added in the changelog (see https://github.com/coq/coq/tree/master/doc/changelog#unreleased-changelog for details).

#### Overlays

- https://github.com/HoTT/HoTT/pull/1327
- https://github.com/coq/stdlib2/pull/23
- https://github.com/MetaCoq/metacoq/pull/462
- https://github.com/QuickChick/QuickChick/pull/205
- https://github.com/coq-community/paramcoq/pull/55

### CODE REVIEW

**Comment by proux01** [comment]
This may be of interest to @JasonGross and @herbelin for the notation part and @silene and @VincentSe for the reals.

File: theories/Reals/Rdefinitions.v [hunk 1]
```diff
@@ -22,10 +22,11 @@ Require Import ClassicalDedekindReals.
 
 
 (* Declare primitive numeral notations for Scope R_scope *)
+Declare Scope hex_R_scope.
 Declare Scope R_scope.
-Declare ML Module "r_syntax_plugin".
 
 (* Declare Scope R_scope with Key R *)
+Delimit Scope hex_R_scope with hR.
```
Comment (JasonGross) [inline theories/Reals/Rdefinitions.v:29]: I think `xR` might be more natural, given that the prefix for hex numbers is `0x` not `0h`

Comment (proux01) [reply theories/Reals/Rdefinitions.v]: Nice, thanks! Did similarly for other hexadecimals (Q and nat).

**Comment by proux01** [comment]
Note to reviewers: no hurry here, this is certainly not 8.12 material.
However, a quick go/no go feedback would be welcome at some point (again, no hurry) to know whether we pursue this (I still have to complete some proofs, the doc and an overlay for fiat-parsers) or whether we just give up.

**Comment by JasonGross** [comment]
> However, a quick go/no go feedback would be welcome at some point (again, no hurry) to know whether we pursue this (I still have to complete some proofs, the doc and an overlay for fiat-parsers) or whether we just give up.

I don't have time to review this extensively right now, but I'd love to see this pushed to completion and merged.

This would also let us define numeral notations for `Type` / `Set`, where `Empty_set` is `0`, `unit` is `1`, and `unit + ... + unit` `n` times is `n`, right?  (Or alternatively where `Fin.t n` is `n`.)

When the time comes, I can prepare an overlay for fiat-parsers.  It'll be pretty easy, probably about 10-30 minutes worth of work for me (basically just copying and modifying https://github.com/JasonGross/coq-scripts/blob/master/compatibility/fragments/Grab88v811.v with the new syntax for real numbers and then modifying https://github.com/JasonGross/coq-scripts/blob/master/compatibility/generate-compat-files.sh to pull in the new file in whatever version of Coq this PR eventually lands in).

**Comment by proux01** [comment]
> I don't have time to review this extensively right now.

As I said, no hurry, I'm myself quite busy right now.

> This would also let us define numeral notations for `Type` / `Set`, where `Empty_set` is `0`, `unit` is `1`, and `unit + ... + unit` `n` times is `n`, right?

That nearly works (see below for an example). I still have to make `Set` and `Type` acceptable after `Numeral Notation` as well as inductive (and not just constants or constructors) accepted in the `using` list, but that should be easy, at least for the latter.

> (Or alternatively where `Fin.t n` is `n`.)

That might require a bit more work since `Fin.t` is an inductive type with a parameter, but that doesn't sound infeasible.

> When the time comes, I can prepare an overlay for fiat-parsers.

Thanks for the offer!

Example:

```Coq
Definition t := Type.
Variant empty : t :=.
Variant unit : t := ttunit.
Inductive prod (A : t) (B : t) : t := pair : A -> B -> prod A B.

Inductive I :=
| Iempty : I
| Iunit : I
| Iprod : I -> I -> I.

Definition of_uint (x : Decimal.uint) : I :=
  let fix f n :=
      match n with
      | O => Iempty
      | S O => Iunit
      | S n => Iprod Iunit (f n)
      end in
  f (Nat.of_uint x).

Definition to_uint (x : I) : Decimal.uint :=
  let fix f i :=
      match i with
      | Iempty => O
      | Iunit => 1
      | Iprod i1 i2 => f i1 + f i2
      end in
  Nat.to_uint (f x).

Definition empty' := empty.
Definition unit' := unit.
Definition prod' := prod.

Numeral Notation t via I using (empty' Iempty, unit' Iunit, prod' Iprod)
  of_uint to_uint : type_scope.

Local Open Scope type_scope.

Check empty'.
Check unit'.
Check prod' unit' unit'.
Check prod' unit' (prod unit' unit').
Set Printing All.
Check 0.
Check 1.
Check 2.
Check 3.
```
outputs
```
0
     : t
1
     : t
2
     : t
prod' 1 (prod 1 1)
     : t
empty'
     : t
unit'
     : t
prod' unit' unit'
     : t
prod' unit' (prod' unit' unit')
     : t
```

**Comment by proux01** [comment]
So the following now works
```Coq
Inductive prod (A : Set) (B : Set) : Set := pair : A -> B -> prod A B.

Inductive I :=
| Iempty : I
| Iunit : I
| Iprod : I -> I -> I.

Definition of_uint (x : Decimal.uint) : I :=
  let fix f n :=
      match n with
      | O => Iempty
      | S O => Iunit
      | S n => Iprod Iunit (f n)
      end in
  f (Nat.of_uint x).

Definition to_uint (x : I) : Decimal.uint :=
  let fix f i :=
      match i with
      | Iempty => O
      | Iunit => 1
      | Iprod i1 i2 => f i1 + f i2
      end in
  Nat.to_uint (f x).

Notation nSet := (Set) (only parsing).  (* needed as a reference is expected in Numeral Notation and Set is syntactically not a reference *)
Numeral Notation nSet via I using (Empty_set Iempty, unit Iunit, prod Iprod)
  of_uint to_uint : type_scope.

Local Open Scope type_scope.

Check Empty_set.
Check unit.
Check prod unit unit.
Check prod unit (prod unit unit).
Set Printing All.
Check 0.
Check 1.
Check 2.
Check 3.
```

**Comment by proux01** [comment]
@JasonGross `Fin.t` now works (c.f. example below). The basic idea is that implicit arguments in the constructors of `Fin.t` are ignored in the inductive type before printing (uninterpreting) whereas they are replaced by implicit argument holes after parsing (interpreting). Thus the constructors of `Fin.t` have type
```
Fin.F1 : forall {n : nat}, Fin.t (S n)
Fin.FS : forall {n : nat}, Fin.t n -> Fin.t (S n)
```
and are parsed through the inductive type
```
Inductive I :=
| I1 : I
| IS : I -> I.
```

I'm not entirely satisfied with this solution though. My main issue is that inductive `I` must be mapped to `Fin.t _`. Currently, this is done by simply ignoring all arguments of a type when one of its "constructors" (things listed in the `using` mapping list) has an implicit argument. This works here but is a very crude heuristic and it could probably be exploited to register numeral notations that could produce terms that are not well typed.

Entire example:
```Coq
Require Import Vector.

Inductive I :=
| I1 : I
| IS : I -> I.

Definition of_uint (x : Decimal.uint) : I :=
  let fix f n :=
      match n with
      | O => I1
      | S n => IS (f n)
      end in
  f (Nat.of_uint x).

Definition to_uint (x : I) : Decimal.uint :=
  let fix f i :=
      match i with
      | I1 => O
      | IS n => S (f n)
      end in
  Nat.to_uint (f x).

Numeral Notation Fin.t via I using (Fin.F1 I1, Fin.FS IS)
  of_uint to_uint : type_scope.

Local Open Scope type_scope.

Check Fin.F1.
Check Fin.FS Fin.F1.
Check Fin.FS (Fin.FS Fin.F1).
Check Fin.FS (Fin.FS (Fin.FS Fin.F1)).
Check Fin.F1 : Fin.t 3.
Check Fin.FS Fin.F1 : Fin.t 3.
Check Fin.FS (Fin.FS Fin.F1) : Fin.t 3.
Fail Check Fin.FS (Fin.FS (Fin.FS Fin.F1)) : Fin.t 3.
Set Printing All.
Check 0.
Check 1.
Check 2.
Check 3.
Check 0 : Fin.t 3.
Check 1 : Fin.t 3.
Check 2 : Fin.t 3.
Fail Check 3 : Fin.t 3.
```
outputs
```
0
     : Fin.t (S ?n)
where
?n : [ |- nat]
1
     : Fin.t (S (S ?n))
where
?n : [ |- nat]
2
     : Fin.t (S (S (S ?n)))
where
?n : [ |- nat]
3
     : Fin.t (S (S (S (S ?n))))
where
?n : [ |- nat]
0 : Fin.t 3
     : Fin.t 3
1 : Fin.t 3
     : Fin.t 3
2 : Fin.t 3
     : Fin.t 3
The command has indeed failed with message:
The term "3" has type "Fin.t (S (S (S (S ?n))))"
while it is expected to have type "Fin.t 3".
@Fin.F1 ?n
     : Fin.t (S ?n)
where
?n : [ |- nat]
@Fin.FS (S ?n) (@Fin.F1 ?n)
     : Fin.t (S (S ?n))
where
?n : [ |- nat]
@Fin.FS (S (S ?n)) (@Fin.FS (S ?n) (@Fin.F1 ?n))
     : Fin.t (S (S (S ?n)))
where
?n : [ |- nat]
@Fin.FS (S (S (S ?n))) (@Fin.FS (S (S ?n)) (@Fin.FS (S ?n) (@Fin.F1 ?n)))
     : Fin.t (S (S (S (S ?n))))
where
?n : [ |- nat]
@Fin.F1 (S (S O)) : Fin.t (S (S (S O)))
     : Fin.t (S (S (S O)))
@Fin.FS (S (S O)) (@Fin.F1 (S O)) : Fin.t (S (S (S O)))
     : Fin.t (S (S (S O)))
@Fin.FS (S (S O)) (@Fin.FS (S O) (@Fin.F1 O)) : Fin.t (S (S (S O)))
     : Fin.t (S (S (S O)))
The command has indeed failed with message:
The term
 "@Fin.FS (S (S (S ?n))) (@Fin.FS (S (S ?n)) (@Fin.FS (S ?n) (@Fin.F1 ?n)))"
has type "Fin.t (S (S (S (S ?n))))" while it is expected to have type
 "Fin.t (S (S (S O)))".
```

**Comment by proux01** [comment]
Fun fact : proving the numeral notations for `Q` and `R` catched two small "errors"

As a recall, the specification is as follows:
```
forall r d, print r = Some d -> parse d = r
forall d, print (parse d) = Some (norm d)
```
where `norm` mostly removes unused leading zeros and changes `-0` into `0` (both encoded as `IR Z0`.

I found:
1. an error in my `norm` function which was normalizing `-0.01` as `0.01`
(so more a bug in the spec than in the implem)
1. the printer was to lax and accepting rationals with denominator `1` (e.g. `Q2R (Qmake 42 1)`) whereas they are printed as integers (e.g. `IZR 42`)

**Comment by proux01** [comment]
So, as far as I'm concerned, this is ready for review. 
Again, if the plan is to target 8.13, we are definitely not in a hurry.

This may look huge but in fact most of the volume comes from the proofs which are isolated in their own commits and shouldn't constitute a review hurdle. The core feature is made of 270 lines of OCaml (about 90 lines in `inerp/notation.ml` and 180 in `plugins/syntax/numeral.ml`) and spread along four independent commits.

**Comment by proux01** [comment]
@JasonGross two small questions:
1. should we marks this as fixing #12035 ?
1. should something similar be done for `String Notation` ?

**Comment by JasonGross** [comment]
I will aim to take more of a look at this shortly.  I'm excited to have this enhancement!

> should we marks this as fixing #12035 ?

Are there any test cases of that issue that are not supported by this PR?

> should something similar be done for String Notation ?

Yes, I think that'd be pretty great, especially if most of the machinery can be shared.

**Comment by proux01** [comment]
> > should we marks this as fixing #12035 ?
> 
> Are there any test cases of that issue that are not supported by this PR?

The one on strings, which meets the second point.

> > should something similar be done for String Notation ?
> 
> Yes, I think that'd be pretty great, especially if most of the machinery can be shared.

I hope so. I should look more closely (I don't know string notations very well to be honest).

**Comment by proux01** [comment]
Parameterized inductives and string notations are now supported, so I'm marking this as closing #12035

@JasonGross thanks for your comment. I lost them, but they are taken into account.

**Comment by JasonGross** [comment]
> The basic idea is that implicit arguments in the constructors of `Fin.t` are ignored in the inductive type before printing (uninterpreting) whereas they are replaced by implicit argument holes after parsing (interpreting). Thus the constructors of `Fin.t` have type
> [...]
> My main issue is that inductive `I` must be mapped to `Fin.t _`. Currently, this is done by simply ignoring all arguments of a type when one of its "constructors" (things listed in the `using` mapping list) has an implicit argument.

It seems fragile to me if changing the implicit status of arguments changes which notations work.  Let me suggest an alternative (and sorry it's taken me so long to respond with this): I think instead each qualid should take an optional parenthesized non-negative numeral immediately after it (defaulting, when omitted, to the number of implicit arguments of that reference at the time the numeral notation is registered), and that this should be the number of holes to insert (or the number of argument to drop?) during parsing/printing.  Note, though, that we already have implicit argument issues with numeral notations in https://github.com/coq/coq/issues/10878, so I'm fine with leaving this improvement for the future.  What do you think?

File: plugins/syntax/numeral.ml [hunk 2]
```diff
@@ -128,13 +128,212 @@ let warn_deprecated_decimal =
...
+let elaborate_to_post_params env sigma ty_ind params =
+  match params with
+  | [] -> [||], get_constructors ty_ind
+  | _ ->
+     let pt_refs = get_constructors ty_ind in
+     let rec prod_length c = match Constr.kind c with
+       | Constr.Prod (_, _, c) -> 1 + prod_length c
+       | _ -> 0 in
+     let l =
+       let args = List.map (fun r -> ToPostCheck r) params in
```
Comment (JasonGross) [inline plugins/syntax/numeral.ml:190]: This assumes that all constructors have the parameters as their first arguments, right?  So you'll get failures(?) or type errors(?) on things like
```coq
Inductive extra_list : Type -> Type := nil (n : nat) (v : Type) : extra_list v | cons (n : nat) (t : Type) (x : t) : extra_list t -> extra_list t.
```
?

File: plugins/syntax/numeral.ml [hunk 3]
```diff
@@ -128,13 +128,212 @@ let warn_deprecated_decimal =
...
+       let nb_params = List.length args in
+       List.map (fun r ->
+           let c = match r with
+             | GlobRef.VarRef v -> Constr.mkVar v
+             | GlobRef.ConstRef c -> Constr.mkConst c
+             | GlobRef.IndRef i -> Constr.mkInd i
+             | GlobRef.ConstructRef c -> Constr.mkConstruct c in
+           let l = prod_length (get_type env sigma c) - nb_params in
+           r, r, args @ List.init l (fun _ -> ToPostCopy))
```
Comment (JasonGross) [inline plugins/syntax/numeral.ml:199]: I believe this will raise an uncaught exception `Invalid_argument` in the following cases:
- the constructor type has fewer arguments than the inductive (e.g., `eq_refl` has two arguments, but `eq` has three)
- the type of the constructor has a reducible `match`, a top-level cast, or a let-in, before all arguments to the inductive are applied

Please add test-suite cases for all of these examples (let me know if you want help generating them), and ensure that they work or give reasonable error messages or whatever the expected behavior is.

File: plugins/syntax/numeral.ml [hunk 4]
```diff
@@ -128,13 +128,212 @@ let warn_deprecated_decimal =
...
+         pt_refs in
+     [|l|], pt_refs
+
+let elaborate_to_post_via env sigma ty_ind ty_name l =
+     let ty_ind = Constr.mkInd ty_ind in
```
Comment (JasonGross) [inline plugins/syntax/numeral.ml:204]: You're using many more spaces of indentation here than above, please use uniform indentation.

File: plugins/syntax/numeral.ml [hunk 5]
```diff
@@ -128,13 +128,212 @@ let warn_deprecated_decimal =
...
+     let sigma, ty_name =
+       locate_global_sort_inductive_or_constant sigma ty_name in
+     (* retrieve constants and constructors mappings and their type *)
+     let l =
+       let read (c, i) =
```
Comment (JasonGross) [inline plugins/syntax/numeral.ml:209]: What are `c` and `i`?  Could you use more informative names here?

File: plugins/syntax/numeral.ml [hunk 6]
```diff
@@ -128,13 +128,212 @@ let warn_deprecated_decimal =
...
+         let lc, li = c.CAst.loc, i.CAst.loc in
+         let gc, c = locate_global_constructor_inductive_or_constant c in
+         let gi, i =
+           let i = Smartlocate.global_constructor_with_alias i in
+           GlobRef.ConstructRef i, Constr.mkConstruct i in
+         let ic = Impargs.(select_stronger_impargs (implicits_of_global gc)) in
+         lc, gc, c, get_type env sigma c, ic, li, gi, i, get_type env sigma i in
+       List.map read l in
```
Comment (JasonGross) [inline plugins/syntax/numeral.ml:217]: I'm having a lot of trouble making sense of this block of code.  Could you either add some comments about what this block does, or else use sufficiently informative names to make it obvious?  (To pick one thing, I have no idea what `select_stronger_impargs` does or why you want it here.)

File: plugins/syntax/numeral.ml [hunk 7]
```diff
@@ -128,13 +128,212 @@ let warn_deprecated_decimal =
...
+     let module CSet = CSet.Make (Constr) in
+     let module CMap = CMap.Make (Constr) in
```
Comment (JasonGross) [inline plugins/syntax/numeral.ml:219]: Why not lift these to top-level in this file?  (Or are there global ones in some other file already?)

File: plugins/syntax/numeral.ml [hunk 8]
```diff
@@ -128,13 +128,212 @@ let warn_deprecated_decimal =
...
+     let rec last_prod c = match Constr.kind c with
+       | Constr.Prod (_, _, c) -> last_prod c
+       | _ -> c in
```
Comment (JasonGross) [inline plugins/syntax/numeral.ml:222]: Again you're going to miss things that have casts, let-ins, and reducible `match` statements.

File: plugins/syntax/numeral.ml [hunk 9]
```diff
@@ -128,13 +128,212 @@ let warn_deprecated_decimal =
...
+     (* in presence of implicit arguments, ignore all parameters
+        this is heuristic and unfortunately not entirely satisfactory *)
+     let l =
+       let ignored_args =
+         List.fold_left (fun s (_,_,_,t,i,_,_,_,_) ->
+             if List.for_all ((=) None) i then s else
+               match Constr.kind (last_prod t) with
+               | Constr.App (t, _) -> CSet.add t s
+               | _ -> s)
```
Comment (JasonGross) [inline plugins/syntax/numeral.ml:231]: Why are you adding the head constants here?  (I think this block again deserves more of a comment)

File: plugins/syntax/numeral.ml [hunk 10]
```diff
@@ -128,13 +128,212 @@ let warn_deprecated_decimal =
...
+        and maps [ty_ind] to [ty_name] *)
+     let ind2ty, ty2ind =
+       List.fold_left (fun (ind2ty, ty2ind) (locc, _, c, tc, _, loci, _, i, ti) ->
+           let add loc l l' m =
+             try
+               let l'' = CMap.find l m in
+               if not (Constr.equal l' l'') then
+                 remapping_error ?loc env sigma l l'' l';
+               m
+             with Not_found -> CMap.add l l' m in
```
Comment (JasonGross) [inline plugins/syntax/numeral.ml:255]: I'd prefer better names than `l`, `l'`, `l''`.  I'm having trouble making sense of them.

File: plugins/syntax/numeral.ml [hunk 11]
```diff
@@ -128,13 +128,212 @@ let warn_deprecated_decimal =
...
+             | GlobRef.VarRef v -> Constr.mkVar v
+             | GlobRef.ConstRef c -> Constr.mkConst c
+             | GlobRef.IndRef i -> Constr.mkInd i
+             | GlobRef.ConstructRef c -> Constr.mkConstruct c in
+           let l = prod_length (get_type env sigma c) - nb_params in
+           r, r, args @ List.init l (fun _ -> ToPostCopy))
+         pt_refs in
+     [|l|], pt_refs
+
+let elaborate_to_post_via env sigma ty_ind ty_name l =
```
Comment (JasonGross) [inline plugins/syntax/numeral.ml:203]: I think this function deserves a comment explaining what it does and how it does it.

**Review by JasonGross — CHANGES_REQUESTED** [review]
There's a lot of code here, and I'm excited to get this feature into Coq; thanks!  And sorry this has taken me so long to review.  I've read over the OCaml code, and left comments (I had a lot of trouble with `elaborate_to_post_via`, though perhaps I was just getting tired by the time I got to it).

I've also fixed the fiat-parsers issue, so it should build fine now (I think you'll have to rebase to get the CI to work though).

Please also add test-suite cases to make sure we get errors rather than anomalies when users do dumb things (such as put non-constructors in the `via` list, put the constructors of the wrong inductive, etc).

**Comment by silene** [comment]
This is something I already discussed with @proux01 offline, but I might as well write it here for the record. Regarding `1.02e1` and `10.2` not being convertible, there is a way to solve it (which we use in Why3). The idea is to normalize the numbers at parsing, but to keep around enough information so that they can be printed back faithfully. For example, one can define
```coq
Definition foo (x:Q) (s:Z) := x.
```
and parse `1.02e1` as `foo (102#10) 1`, and `10.2` as `foo (102#10) 0`.

In Why3, the extraneous information are a power of 2, a power of 5, and a radix (e.g., 10, 16), so that we can cover both decimal and hexadecimal notations.

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 12]
```diff
@@ -1508,21 +1509,163 @@ Numeral notations
          function application, constructors, inductive type families,
          sorts, and primitive integers) will be considered for printing.
 
-      :n:`( warning after @numeral )`
+         .. note::
+            When :n:`@qualid` is a parameterized inductive type, all
+            parameters must be provided via a notation.
```
[the remark this answers is not in the document]
Comment (proux01) [reply doc/sphinx/user-extensions/syntax-extensions.rst]: Indeed muc clearer, thanks!

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 13]
```diff
@@ -1508,21 +1509,163 @@ Numeral notations
...
+         above parser and printer types.
+
+         .. note::
+            To use a sort as target type, use a notation as in example below.
+
+         The following example parses and prints :g:`prod unit (prod unit unit)` as :g:`3`:
+
+         .. coqtop:: in reset
+
+            Inductive I :=  (* will be used as qualid_ind *)
```
[the remark this answers is not in the document]
Comment (proux01) [reply doc/sphinx/user-extensions/syntax-extensions.rst]: Indeed not.

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 14]
```diff
@@ -1544,6 +1687,12 @@ Numeral notations
             As noted above, the :n:`(abstract after @num)` directive has no
             effect when :n:`@qualid__parse` lands in an :g:`option` type.
 
+         .. exn:: 'via' and 'abstract' cannot be used together.
+
+            Since the parser is not actually run with :n:`abstract`,
```
[the remark this answers is not in the document]
Comment (proux01) [reply doc/sphinx/user-extensions/syntax-extensions.rst]: Thanks!

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 15]
```diff
@@ -1645,8 +1794,19 @@ The following errors apply to both string and numeral notations:
 
    .. exn:: @type is not an inductive type.
 
-     String and numeral notations can only be declared for inductive types with no
-     arguments.
+     String and numeral notations can only be declared for inductive types.
```
[the remark this answers is not in the document]
Comment (proux01) [reply doc/sphinx/user-extensions/syntax-extensions.rst:1888]: Indeed

File: interp/notation.ml [hunk 16]
```diff
@@ -513,24 +530,72 @@ exception NotAValidPrimToken
...
+         let rec aux sigma a gcl = match a, gcl with
+           | [], [] -> sigma,[]
+           | ToPostCopy :: a, gc :: gcl ->
+              let sigma,c = constr_of_glob allow_constant [||] [] env sigma gc in
+              let sigma,cl = aux sigma a gcl in
+              sigma, c :: cl
+           | ToPostCheck r :: a, gc :: gcl ->
+              let gc = match DAst.get gc with
+                | Glob_term.GRef (r', _) when GlobRef.equal r r' -> gc
+                | _ -> raise NotAValidPrimToken in
```
[the remark this answers is not in the document]
Comment (proux01) [reply interp/notation.ml]: Right

File: interp/notation.ml [hunk 17]
```diff
@@ -552,9 +617,38 @@ let no_such_prim_token uninterpreted_token_kind ?loc ty =
...
+  let rec f n a gl = match a, gl with
+    | [], [] -> []
+    | ToPostHole :: a, gl ->
+       let e = Evar_kinds.ImplicitArg (r, (n, None), true) in
+       let h = DAst.make ?loc (Glob_term.GHole (e, Namegen.IntroAnonymous, None)) in
+       h :: f (n+1) a gl
+    | (ToPostCopy | ToPostCheck _) :: a, g :: gl -> g :: f (n+1) a gl
+    | ToPostAs c :: a, g :: gl ->
+       postprocess token_kind ?loc ty to_post to_post.(c) g :: f (n+1) a gl
+    | [], _::_ | (ToPostCopy | ToPostCheck _ | ToPostAs _)::_, [] ->
```
[the remark this answers is not in the document]
Comment (proux01) [reply interp/notation.ml]: Indeed

File: interp/notation.ml [hunk 18]
```diff
@@ -879,12 +973,12 @@ let interp o ?loc n =
   match o.warning, snd o.to_kind with
   | Abstract threshold, Direct when NumTok.Signed.is_bigger_int_than n threshold ->
      warn_abstract_large_num (o.ty_name,o.to_ty);
-     glob_of_constr "numeral" ?loc env sigma (mkApp (to_ty,[|c|]))
+     glob_of_constr "numeral" o.ty_name ?loc env sigma [||] (mkApp (to_ty,[|c|]))
```
[the remark this answers is not in the document]
Comment (proux01) [reply interp/notation.ml]: Thanks!

File: interp/smartlocate.ml [hunk 19]
```diff
@@ -50,6 +50,16 @@ let locate_global_with_alias ?(head=false) qid =
     user_err ?loc:qid.CAst.loc (pr_qualid qid ++
       str " is bound to a notation that does not denote a reference.")
 
+let global_constant_with_alias qid  =
+  try match locate_global_with_alias qid with
+  | Names.GlobRef.ConstRef c -> c
+  | ref ->
+      user_err ?loc:qid.CAst.loc ~hdr:"global_inductive"
+        (pr_qualid qid ++ spc () ++ str "is not a reference to the environment.")
```
[the remark this answers is not in the document]
Comment (proux01) [reply interp/smartlocate.ml]: Good question, this code could be called from many places so I don't know where it should be documented.

[the remark this answers is not in the document]
Comment (JasonGross) [reply interp/smartlocate.ml]: cc @coq/doc-maintainers

File: plugins/syntax/numeral.ml [hunk 20]
```diff
@@ -128,13 +128,212 @@ let warn_deprecated_decimal =
...
+  EConstr.to_constr sigma t
+
+let elaborate_to_post_params env sigma ty_ind params =
+  match params with
+  | [] -> [||], get_constructors ty_ind
+  | _ ->
+     let pt_refs = get_constructors ty_ind in
+     let rec prod_length c = match Constr.kind c with
+       | Constr.Prod (_, _, c) -> 1 + prod_length c
+       | _ -> 0 in
```
[the remark this answers is not in the document]
Comment (JasonGross) [reply plugins/syntax/numeral.ml:191]: cc @ppedrot Is there a good/efficient API for counting the number of Products?

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 21]
```diff
@@ -1508,21 +1509,163 @@ Numeral notations
...
+               Definition of_uint (u : Numeral.uint) : list unit :=
+                 let fix f n :=
+                   match n with O => nil | S n => cons tt (f n) end in
+                 f (Nat.of_num_uint u).
+               Definition to_uint (l : list unit) : Numeral.uint :=
+                 let fix f n :=
+                   match n with nil => O | cons tt l => S (f l) end in
+                 Nat.to_num_uint (f l).
+
+               Notation listunit := (list unit) (only parsing).
```
[the remark this answers is not in the document]
Comment (proux01) [reply doc/sphinx/user-extensions/syntax-extensions.rst:1611]: This seems to work fine, i.e., both checks output `0 : list unit`.
Makes sense since the abbreviation is required only when defining the notation (the `Numeral Notation` line), not when the notation is used.

File: interp/notation.ml [hunk 22]
```diff
@@ -552,9 +617,38 @@ let no_such_prim_token uninterpreted_token_kind ?loc ty =
...
+    match DAst.get g' with
+    | Glob_term.GRef (r, None) ->
+       List.find_opt (fun (r',_,_) -> GlobRef.equal r r') post
+    | _ -> None in
+  match o with None -> g | Some (_, r, a) ->
+  let rec f n a gl = match a, gl with
+    | [], [] -> []
+    | ToPostHole :: a, gl ->
+       let e = Evar_kinds.ImplicitArg (r, (n, None), true) in
+       let h = DAst.make ?loc (Glob_term.GHole (e, Namegen.IntroAnonymous, None)) in
```
[the remark this answers is not in the document]
Comment (proux01) [reply interp/notation.ml:665]: I intend to make an implicit argument hole `_` for the `n`-th argument of `r` but this is not very well documented.
I hope I'm not doing it wrong. Well, seems to work.

File: plugins/syntax/numeral.ml [hunk 23]
```diff
@@ -128,13 +128,212 @@ let warn_deprecated_decimal =
...
+let locate_global_constructor_inductive_or_constant qid =
+  let g = Smartlocate.global_with_alias qid in
+  match g with
+  | GlobRef.ConstructRef c -> g, Constr.mkConstruct c
+  | GlobRef.IndRef i -> g, Constr.mkInd i
+  | _ -> g, Constr.mkConst (Smartlocate.global_constant_with_alias qid)
+
+let get_type env sigma c =
+  let t = Retyping.get_type_of env sigma (EConstr.of_constr c) in
+  EConstr.to_constr sigma t
```
[the remark this answers is not in the document]
Comment (proux01) [reply plugins/syntax/numeral.ml:182]: Because https://github.com/coq/coq/blob/84a32bbdf6572a45a78667803e574a561bbed21f/pretyping/retyping.mli#L34 did not exist at the time of writing.

File: interp/notation.ml [hunk 24]
```diff
@@ -513,24 +530,72 @@ exception NotAValidPrimToken
...
+  | _ -> raise NotAValidPrimToken
+
+let rec constr_of_glob allow_constant to_post post env sigma g = match DAst.get g with
+  | Glob_term.GRef (r, _) ->
+      let o = List.find_opt (fun (_,r',_) -> GlobRef.equal r r') post in
+      begin match o with
+      | None -> constr_of_globref allow_constant env sigma r
+      | Some (r, _, a) ->
+         if List.exists ((<>) ToPostHole) a then raise NotAValidPrimToken;
+         constr_of_globref true env sigma r
```
[the remark this answers is not in the document]
Comment (proux01) [reply interp/notation.ml]: We are in a case where `g` has no arguments (not a `GApp`), so we check that indeed no argument is expected (i.e., the translation info `a` about arguments contain only `ToPostHole` if anything (meaning "ignore corresponding arg"))).

Comment added in the code.

**Comment by proux01** [comment]
> I've also fixed the fiat-parsers issue, so it should build fine now (I think you'll have to rebase to get the CI to work though).

Indeed, this now works, thanks!

Thanks a lot for your careful review, it indeed catches a few shortcomings of the current code. I fixed the "easy" ones and I will now address the more fundamental ones:
* better document the type correspondence (both in refman and by comments in the code)
* handle match, LetIn and Casts in the types
* make elaborate_to_post_params more robust (currently assumes parameters are the first arguments of inductive constructors)
* improve code comments / variable names
* add test cases

**Comment by JasonGross** [comment]
> * handle match, LetIn and Casts in the types

Note, btw, that you may also need to handle App of Lambda to arguments as well as App of constants, such as in
```coq
Definition arrow (A B : Type) := A -> B.
Inductive foo : Type -> Type := bar A : arrow A (foo A).
```

I think these problems would go away if we used a more restricted specification (as I suggested in https://github.com/coq/coq/pull/12218#issuecomment-681176473): each constant gets first some number of holes, and then any arguments after the holes of the other constant get copied; this number defaults to the number of implicits of the constant, but can be modified by the user.

What do you think?

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 25]
```diff
@@ -1591,21 +1592,172 @@ Numeral notations
...
+         (or a function of type :n:`{* _ -> } @qualid`) and the second a
+         constructor of type :n:`@qualid__ind`. The above type
+         :n:`@qualid` is then replaced by :n:`@qualid__ind` in the
+         above parser and printer types.
+
+         .. note::
+            To use a sort as target type, use an :ref:`abbreviation <Abbreviations>`
+            as in example below.
+
+         The following example parses and prints :g:`prod unit (prod unit unit)` as :g:`3`.
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1635]: Would you move this example to the end of the subsection and add a hyperlink here?

We like to keep the syntax explanations of each element brief so the command syntax and the explanations (e.g. the box below and the following text) are in the same screen full as much as possible.  And easy for the reader to scan.  This command description on this point already deserved some rewriting on this point.

image

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 26]
```diff
@@ -1591,21 +1592,172 @@ Numeral notations
...
+               Notation listunit := (list unit) (only parsing).
+               Numeral Notation listunit of_uint to_uint : nat_scope.
+
+            .. coqtop:: all
+
+               Check 0.
+               Check 1.
+               Check 2.
+
+      :n:`via @qualid__ind using ( {+, @qualid @qualid } )`
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1620]: You won't be able to use `qualid__ind` here.  The tool doesn't support it.

File: doc/sphinx/user-extensions/syntax-extensions.rst (hunk 25 above)
Comment (jfehrle) [reply doc/sphinx/user-extensions/syntax-extensions.rst:1635]: Also, the example is very long.  If you can shorten it or split it into multiple examples that would be better, also add some explanations along the way on the significant details that the reader should observe.  Really you should be ruthless about making examples as short and pointed as possible so that someone new to the feature can grasp them quickly.

And please start with `.. example:: INSERT TITLE FOR EXAMPLE`.

Your build didn't generate the reference manual, so I couldn't see the example with the coqtop processing.

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 27]
```diff
@@ -1591,21 +1592,172 @@ Numeral notations
...
+
+            Check Empty_set.
+            Check unit.
+            Check prod unit unit.
+            Check prod unit (prod unit unit).
+
+         .. coqtop:: all
+
+            Set Printing All.
+            Check 0.
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1683]: Is it necessary to Check all 4 of these values?  Be ruthless.

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 28]
```diff
@@ -1627,6 +1779,12 @@ Numeral notations
             As noted above, the :n:`(abstract after @num)` directive has no
             effect when :n:`@qualid__parse` lands in an :g:`option` type.
 
+         .. exn:: 'via' and 'abstract' cannot be used together.
+
+            Since the parser is not actually reduced with :n:`abstract`,
+            its result cannot be translated from :n:`@qualid__ind` to
+            the actual type.
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1786]: I don't understand what you mean by "is not actually reduced with".

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 29]
```diff
@@ -1728,8 +1886,20 @@ The following errors apply to both string and numeral notations:
 
    .. exn:: @type is not an inductive type.
 
-     String and numeral notations can only be declared for inductive types with no
-     arguments.
+     String and numeral notations can only be declared for inductive types.
+     Declare string or numeral notations for non-inductive types using ``via``.
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1890]:
```suggestion
     Declare string or numeral notations for non-inductive types using :n:`@numeral_via`.
```
Or whatever it's called.  This way there is a hyperlink to that syntax.

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 30]
```diff
@@ -1728,8 +1886,20 @@ The following errors apply to both string and numeral notations:
...
+
+   .. exn:: Missing mapping for constructor @qualid
+
+      A mapping should be provided for :n:`@qualid` in the :n:`using` list.
+
+   .. exn:: @qualid was already mapped to @qualid and cannot be remapped to @qualid
+
+      No duplicates are allowed in the :n:`using` list.
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1898]:
```suggestion
      Duplicates are not allowed in the :n:`using` list.
```

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 31]
```diff
@@ -1728,8 +1886,20 @@ The following errors apply to both string and numeral notations:
...
+
+   .. exn:: @qualid is incompatible with @qualid . Its expected type is: @type .
+
+      One of the mappings given in the :n:`using` list is not well typed.
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1902]:
```suggestion
      A mapping given in the :n:`using` list is not well typed.
```

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 32]
```diff
@@ -1591,21 +1592,172 @@ Numeral notations
...
+            parsing a numeral greater than or equal to :token:`num`.
 
-      :n:`( abstract after @numeral )`
+      :n:`( abstract after @num )`
          returns :n:`(@qualid__parse m)` when parsing a literal
-         :n:`m` that's greater than :n:`@numeral` rather than reducing it to a normal form.
+         :n:`m` that's greater than :n:`@num` rather than reducing it to a normal form.
          Here :g:`m` will be a
-         :g:`Numeral.int` or :g:`Numeral.uint` or :g:`Z`, depending on the
+         :g:`Numeral.int` or :g:`Numeral.uint` or :g:`Z` or :g:`Numeral.numeral`, depending on the
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1760]:
```suggestion
         :g:`Numeral.int`, :g:`Numeral.uint`, :g:`Z` or :g:`Numeral.numeral`, depending on the
```

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 33]
```diff
@@ -1591,21 +1592,172 @@ Numeral notations
...
+         .. note::
+
+            When the terms mapped to the constructors of
+            :n:`@qualid__ind` have implicit arguments, those are
+            ignored when translating to the inductive type
+            :n:`@qualid__ind` before calling :n:`@qualid__parse` and
+            filled with implicit argument holes :g:`_` after
+            :n:`@qualid__print`. Note that this makes numeral
+            notations fragile with respect to implicit argument
+            status. Example:
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1697]:
```suggestion
            Terms mapped to the constructors of
            :n:`@qualid__ind` that have implicit arguments are
            ignored when translating to the inductive type
            :n:`@qualid__ind` before calling :n:`@qualid__parse` and
            filled with implicit argument holes :g:`_` after
            :n:`@qualid__print`. This makes numeral
            notations fragile in relation to implicit arguments. Example:
```

**Review by jfehrle — CHANGES_REQUESTED** [review]
Maybe more comments after I can see the generated HTML.

**Comment by proux01** [comment]
> > * handle match, LetIn and Casts in the types
> 
> Note, btw, that you may also need to handle App of Lambda to arguments as well as App of constants

I fear to rediscover the wheel here, maybe we should just unify with `?u -> ?v` to find products in whatever type.

> I think these problems would go away if we used a more restricted specification (as I suggested in [#12218 (comment)](https://github.com/coq/coq/pull/12218#issuecomment-681176473)): each constant gets first some number of holes, and then any arguments after the holes of the other constant get copied; this number defaults to the number of implicits of the constant, but can be modified by the user.
> 
> What do you think?

I do think this indeed needs improvement.

Here is how it currently works for
```Coq
Numeral Notation ty_name via ty_ind using (constant constructor,..., constant constructor).
```

* if none of the `constant` has implicit arguments (first mode):
  1. we start a mapping `ind2ty` mapping `ty_ind` to `ty_name`
  1. for each pair `(constant, constructor) : ty_cnst * ty_cstr` of the `using` list
     * we retrieve its final codomain type : `ty_cnst : _ -> ... -> ty_final_cnst`
       and `ty_cstr : _ -> ... -> ty_final_cstr`
     * and add `ty_final_cnst \mapsto ty_final_cstr` to the mapping `ind2ty`
     * we check in passing that none of the two was already mapped to something else,
       i.e., that the mapping remains one to one
  1. for each pair `ty_cnst, ty_cstr` we apply the `ind2ty` mapping  to `ty_cstr` and check that the result is `ty_cnst`
  1. for each inductive type in `ind2ty` we check that each of its constructors appears exactly once in the `using` list
* otherwise, proceed as above except that (second mode):
  * each `ty_final_cnst` is replaced by its head when `constant` has implicit arguments and `ty_final_cnst` is an application (i.e., its arguments are ignored)
  * and all implicit arguments are removed from the type `ty_cnst` for step iii.
  * these implicit arguments will then be ignored (resp. replaced by `_` holes) for printing (resp. parsing)

The behavior in the second mode is somewhat heuristic but we could live with it (provided it's properly documented).

What's really unsatisfactory is the switching criterion between these two modes, because it's too heuristic / non obvious for the user. Your solution would be an improvement (although we would lose the ability to have implicit arguments other than the first arguments) but I think it shouldn't default to implicit arguments (second mode above) but rather to nothing (first mode).

What about the following alternative solution: int he `using` list, `constant` can be optionally surrounded by square brackets `[constant]` to explicitly activate the second mode for it (i.e., take implicit arguments into account), otherwise, first mode is used (i.e., implicit arguments are ignored)?

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 34]
```diff
@@ -1538,14 +1538,15 @@ numbers (see :ref:`datatypes`).
 Numeral notations
 ~~~~~~~~~~~~~~~~~
 
-.. cmd:: Numeral Notation @qualid @qualid__parse @qualid__print : @scope_name {? @numeral_modifier }
+.. cmd:: Numeral Notation @qualid {? @numeral_via } @qualid__parse @qualid__print : @scope_name {? @numeral_modifier }
```
[the remark this answers is not in the document]
Comment (proux01) [reply doc/sphinx/user-extensions/syntax-extensions.rst:1541]: Thanks, I managed to run the tool (meaning the documentation seems clear enough, congrats!).
Feel free to review my changes to the docgram files though.

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 35]
```diff
@@ -1538,14 +1538,15 @@ numbers (see :ref:`datatypes`).
...
    :name: Numeral Notation
 
    .. insertprodn numeral_modifier numeral_modifier
 
    .. prodn::
-      numeral_modifier ::= ( warning after @numeral )
-      | ( abstract after @numeral )
+      numeral_via      ::= via @qualid__ind using ( {+, @qualid @qualid } )
```
[the remark this answers is not in the document]
Comment (proux01) [reply doc/sphinx/user-extensions/syntax-extensions.rst]: I tweaked `common.edit_mlg` and got the same thing. Hope I haven't done anything to bad (`LIST1` doesn't seem to be available in `VERNAC ARGUMENT EXTEND`).

File: doc/sphinx/user-extensions/syntax-extensions.rst (hunk 26 above)
Comment (proux01) [reply doc/sphinx/user-extensions/syntax-extensions.rst:1624]: I made an alias to reference called `qualid__ind`, I hope there is nothing wrong with that.

File: doc/sphinx/user-extensions/syntax-extensions.rst (hunk 33 above)
Comment (proux01) [reply doc/sphinx/user-extensions/syntax-extensions.rst:1701]: This changes the meaning of the first sentence (the things that are ignored are the arguments, not the terms) but this points out that the sentence is ambiguous. I have to rephrase that.

**Comment by proux01** [comment]
> Maybe more comments after I can see the generated HTML.

Thanks @jfehrle for your careful review! The CI is running so we should get the HTML output. Note however that we are still discussing some details of the syntax here, so the documentation will still need some adjustments.

As a side note, your tool generates `@numeral` whereas we would expect `@num` in `numeral_modifier` (c.f. this commit https://github.com/coq/coq/pull/12218/commits/a2c44db261beabe8c6dcf1851c7b1c1ac7491f9c ), do you know how we should fix that ?

File: doc/sphinx/user-extensions/syntax-extensions.rst (hunk 35 above)
[the remark this answers is not in the document]
Comment (jfehrle) [reply doc/sphinx/user-extensions/syntax-extensions.rst]: Ah, it is valid, just uncommon.  My bad.

`dev/doc/parsing.md` explains how to do LIST1 for `VERNAC ARGUMENT EXTEND` in the section "Alternate production syntax".

File: doc/sphinx/user-extensions/syntax-extensions.rst (hunk 28 above)
Comment (JasonGross) [reply doc/sphinx/user-extensions/syntax-extensions.rst:1790]: When you pass `(abstract after X)` to the `Numeral Notation`, then numerals larger than `X` are interpreted as the application of the parser to the decimal constant.  Hence we don't have access to the normal form, so cannot perform the translation.

File: doc/tools/docgram/fullGrammar [hunk 36]
```diff
@@ -2566,6 +2566,20 @@ numnotoption: [
 | "(" "abstract" "after" bignat ")"
 ]
 
+numnotvial: [
+| reference reference
+| reference reference "," numnotvial
+]
+
+qualid__ind: [
```
Comment (jfehrle) [inline doc/tools/docgram/fullGrammar:2574]: In the grammar, please don't use nonterminals with double underscores in them.  These names are ambiguous (in the doc, the tool can't tell distinguish whether it's the `qualid__ind` nonterminal or the `qualid` nonterminal with a subscript), which would break the automatic updating of commands and tactics in the rsts.

It's fine to introduce the subscript in the header here:

image

The description will be easier to read if you add subscripts to the two `qualid`s in the box above and to each reference in the description below it.  As it is, the text is a bit ambiguous on what each `qualid` refers to.

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 37]
```diff
@@ -1538,9 +1538,14 @@ numbers (see :ref:`datatypes`).
...
-.. cmd:: Numeral Notation @qualid @qualid__parse @qualid__print : @scope_name {? @numeral_modifier }
+.. cmd:: Numeral Notation @qualid {? @numeral_via } @qualid__parse @qualid__print : @scope_name {? @numeral_modifier }
    :name: Numeral Notation
 
+   .. insertprodn numeral_via numeral_via
+
+   .. prodn::
+      numeral_via ::= via @qualid__ind using ( {+, @qualid @qualid } )
+
    .. insertprodn numeral_modifier numeral_modifier
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1549]: You only need a single `insertprodn` and `prodn` here.  In `orderedGrammar`, move the definition for `numeral_via` to be just before `numeral_modifier` and update the `insertprodn` arguments here.  Then rerun `make doc_gram_rsts`.

**Comment by JasonGross** [comment]
> I fear to rediscover the wheel here, maybe we should just unify with `?u -> ?v` to find products in whatever type.

I think you should follow the code in implicit argument computation for now, where we compute the whnf.  This has bad complexity, but since you're only doing it when registering the numeral notation, it should not be too bad.

> What about the following alternative solution: in the `using` list, `constant` can be optionally surrounded by square brackets `[constant]` to explicitly activate the second mode for it (i.e., take implicit arguments into account), otherwise, first mode is used (i.e., implicit arguments are ignored)?

Sure, that sounds fine.

It still seems a bit overly complicated to me.  Why not just allow ourselves to build ill-typed terms in the translation and catch such type errors, and consider that a failure?  Do we need to explicitly do all this checking just to build the term?  Or is the issue that you want to catch all the errors during declaration rather than during parsing?  (And perhaps add a numeral/string notation debugging flag to emit them as warnings in a debugging mode, or when `-debug` is passed to Coq.)

Btw, it occurs to me that what we're doing here is a slight variant on what the quote plugin used to do, before it was removed in #7894.  So yet another possibility is to take instead an interpretation function from the syntactic form to the semantics, and derive the mapping from that.  (But I guess this has even more problems with implicits?)

**Review by jfehrle — COMMENTED** [review]
Only looking at grammar:

> As a side note, your tool generates @numeral whereas we would expect @num in numeral_modifier (c.f. this commit a2c44db ), do you know how we should fix that ?

This a semantic restriction rather than strictly the grammar?  IIRC the lexer only returns `NUMERAL` tokens.  It's awkward and edit prone to edit individual productions in `common.edit_mlg` to show semantic restrictions in the productions.  It takes considerable examination to update correctly.  `num` is created in the edits.  It would be vastly clearer to create a `num -> numeral` production in the mlg files that applies the semantic restriction and use that where appropriate in other productions.  Perhaps you would consider cleaning that up at some point?

The simple fix is probably to use `natural` in `numnotoption` (renames to `numeral_modifier`) in the mlg rather than `bignat`.

File: doc/sphinx/user-extensions/syntax-extensions.rst (hunk 28 above)
Comment (jfehrle) [reply doc/sphinx/user-extensions/syntax-extensions.rst:1790]: Thanks. I think it should be reworded, too.

File: doc/tools/docgram/common.edit_mlg [hunk 38]
```diff
@@ -2451,6 +2457,7 @@ RENAME: [
 | constr_as_binder_kind binder_interp
 | syntax_extension_type explicit_subentry
 | numnotoption numeral_modifier
+| numnotvia numeral_via
```
[the remark this answers is not in the document]
Comment (jfehrle) [reply doc/tools/docgram/common.edit_mlg:2460]: Also, perhaps `via_numeral` is a better name for the nonterminal because its elements are the order they appear in the production.

**Comment by jfehrle** [comment]
By the way, Pierre, if you include someone's tag such as `@jfehrle` in your commit message then every time you re-push that commit I get an email.  As you did in the `[numeral notation] Improve documentation ` commit.  So probably better to avoid that.

File: doc/tools/docgram/common.edit_mlg (hunk 38 above)
[the remark this answers is not in the document]
Comment (proux01) [reply doc/tools/docgram/common.edit_mlg]: `numeral_via` corresponds to the `'via' reference 'using' (references list)` after `Numeral Notation`
so it seems better ordered than `via_numeral` but maybe `via_using` would be closer from the syntax? (I honestly have no strong opinion here)

File: doc/tools/docgram/common.edit_mlg [hunk 39]
```diff
@@ -1318,6 +1318,12 @@ syntax_extension_type: [
 | DELETE "constr"    (* covered by another prod *)
 ]
 
+numnotvia: [
+| OPTINREF
+| REPLACE "via" qualid__ind "using" "(" numnotvial ")"
+| WITH "via" qualid__ind "using" "(" LIST1 ( reference reference ) SEP "," ")"
```
[the remark this answers is not in the document]
Comment (proux01) [reply doc/tools/docgram/common.edit_mlg]: Thanks

File: doc/sphinx/user-extensions/syntax-extensions.rst (hunk 37 above)
Comment (proux01) [reply doc/sphinx/user-extensions/syntax-extensions.rst]: Thanks

**Comment by proux01** [comment]
> if you include someone's tag such as @jfehrle in your commit message then every time you re-push that commit I get an email

Sorry, fixed.

> This a semantic restriction rather than strictly the grammar? IIRC the lexer only returns `NUMERAL` tokens.

Exact

> `num` is created in the edits.

IIRC, `num` is the historic name in the doc, it probably was a shortening of `NUMERAL`, which originally were only natural numbers. When NUMERAL were extended with decimal and exponent parts, `num` was kept in the refman to avoid modifying it all over the place and `numeral` was added. Maybe `num` should be renamed to `nat` but I guess this would conflict with the type of natural numbers (@Zimmi48 might have an opinion ?).

> It would be vastly clearer to create a `num -> numeral` production in the mlg files that applies the semantic restriction and use that where appropriate in other productions. Perhaps you would consider cleaning that up at some point?

Isn't this production exactly `bignat`?
Maybe could this be improved by having `bigint` use `bignat`?

> The simple fix is probably to use `natural` in `numnotoption` (renames to `numeral_modifier`) in the mlg rather than `bignat`.

We don't want that, `natural` is `bignat` plus the semantic restriction to fit in a signed 63bit integer. So I added a rule in `common.edit_mlg` telling that `bignat` is `num` (and removed the rule for `natural` since it depends on `bignat`, c.f. https://github.com/coq/coq/pull/12218/commits/1b709376724b52672e4c40fee449072092387be2 )

**Comment by Zimmi48** [comment]
I don't have a strong opinion. I'm open to any renaming of the nonterminals that would make things clearer, including ones that would require changing almost every page of the manual.

**Comment by jfehrle** [comment]
1b70937 seems OK.

The other problem is that there are too many similar names for number-related nonterminals (natural, bigint, bignat, int, integer, others?) in the mlgs, so it's hard to remember what is what.    The editing and renaming in `common.edit_mlg` doesn't help either.  Every time I review this stuff, I end up reading a bunch of code.  It should be simpler.  We should clean up the mlgs so it's not necessary to rename the nonterminals in `doc_grammar`.

`common.edit_mlg` also introduces several other nonterminals to describe the built-in token syntax for numbers in the Core Language/Basic Notions/Syntax and lexical conventions/Lexical conventions subsection (look at that if you haven't read it before).

"numeral" is not a synonym for "number", so I would rename it.  "numeral" generally refers to the symbol representing a single digit.

What is a good, minimal set of names for number nonterminals?

It would be great if you could help clean up some of this, but I think that's better done in another PR.

> I'm open to any renaming of the nonterminals that would make things clearer, including ones that would require changing almost every page of the manual.

Agreed.  The doc, mlgs and doc_grammar items should be updated together in a single PR.

**Comment by proux01** [comment]
I agree, here is a new dedicated PR : #12979

**Comment by proux01** [comment]
> > I fear to rediscover the wheel here, maybe we should just unify with `?u -> ?v` to find products in whatever type.
> 
> I think you should follow the code in implicit argument computation for now, where we compute the whnf. This has bad complexity, but since you're only doing it when registering the numeral notation, it should not be too bad.

Would you have a more precise idea were I should look for that code?
Implicit arguments seem to be computed in `pretyping.ml` but that's a rather large file.

> It still seems a bit overly complicated to me. Why not just allow ourselves to build ill-typed terms in the translation and catch such type errors, and consider that a failure? (And perhaps add a numeral/string notation debugging flag to emit them as warnings in a debugging mode, or when `-debug` is passed to Coq.) Do we need to explicitly do all this checking just to build the term? Or is the issue that you want to catch all the errors during declaration rather than during parsing?

Very good point! It appears the only check required when declaring the notation is the absence of duplicated or missing `constructor` in the `using` list, which is easy to perform. So we should indeed change all other errors to warnings (from my small experience, they are convenient to catch errors when writing notations) and accept that they can be unsound or incomplete and that ill typed term could be generated at parsing time.

> Btw, it occurs to me that what we're doing here is a slight variant on what the quote plugin used to do, before it was removed in #7894. So yet another possibility is to take instead an interpretation function from the syntactic form to the semantics, and derive the mapping from that. (But I guess this has even more problems with implicits?)

IIRC, that was among the ideas discussed in https://github.com/coq/coq/issues/12035 . It seems to me that implicits would indeed be a showstopper here since the interpretation function would have to fill the implicit holes.

**Comment by JasonGross** [comment]
> Would you have a more precise idea were I should look for that code?
> Implicit arguments seem to be computed in `pretyping.ml` but that's a rather large file.

https://github.com/coq/coq/blob/99a9e6b938e8d9237779d384bc8295c1f30cbdce/interp/impargs.mli#L93
https://github.com/coq/coq/blob/99a9e6b938e8d9237779d384bc8295c1f30cbdce/interp/impargs.ml#L249-L257


> So we should indeed change all other errors to warnings

That sounds good.  Please clearly delimit the code that is just doing warnings checks, so that it's easy to tell what code impacts the functioning of the numeral notation and what code does not.  (Perhaps make `check_*_and_warn` functions (or similar) for each check?)

> It seems to me that implicits would indeed be a showstopper here since the interpretation function would have to fill the implicit holes.

Yeah.  Though it might be possible if we allow dependent types and implicit arguments to the dependent interpretation function?  Consider:
```coq
Require Coq.Vectors.Fin.

Inductive I :=
| I1 : I
| IS : I -> I.

Fixpoint size (v : I) : nat
  := match v with
     | I1 => 0
     | IS v => S (size v)
     end.

Fixpoint interp_I {n} (v : I) : Fin.t (size v + S n)
  := match v with
     | I1 => Fin.F1
     | IS v => Fin.FS (interp_I v)
     end.
```

I am sharing this mostly just in case it provides good ideas; I think the using list is sufficient and would be happy to see it merged.

**Comment by proux01** [comment]
> > Would you have a more precise idea were I should look for that code?
> > Implicit arguments seem to be computed in `pretyping.ml` but that's a rather large file.
> 
> https://github.com/coq/coq/blob/99a9e6b938e8d9237779d384bc8295c1f30cbdce/interp/impargs.mli#L93
> 
> 
> https://github.com/coq/coq/blob/99a9e6b938e8d9237779d384bc8295c1f30cbdce/interp/impargs.ml#L249-L257

Thanks! That seem to work.

> I am sharing this mostly just in case it provides good ideas; I think the using list is sufficient and would be happy to see it merged.

I agree (and you had to wrote some extra code with the `size` function, so not a clearly better solution).

Anyway, all your comments are now addressed and CI seem happy.

Note : this currently depends on #12979 (yet to merge) which clutters the `Files changed` tab, you may want to use the commit per commit view to better see the code (most of the changes lie in `plugins/syntax/numeral.ml` (renamed in `plugins/syntax/number.ml`), in `test-suite/output/NumeralNotations.v` for the tests and in `doc/sphinx/user-extensions/syntax-extensions.rst` for the doc).

**Comment by proux01** [comment]
BTW @JasonGross @jfehrle this is ready for review if you want to have a look.

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 40]
```diff
@@ -1728,16 +1736,62 @@ String notations
...
-The following errors apply to both string and numeral notations:
+.. note::
+   Number or string notations for parameterized inductive types can be
+   added by declaring an :ref:`abbreviation <Abbreviations>` for the
+   inductive which instantiates all parameters. See example below.
+
+The :n:`via` option applies to both string and number notations:
+
+:n:`via @qualid__ind using ( {+, @qualid__constant @qualid__constructor } )`
+   When using this variant, :n:`@qualid__type` no
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1747]:
```suggestion
   When using this option, :n:`@qualid__type` no
```

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 41]
```diff
@@ -1728,16 +1736,62 @@ String notations
      concrete string expressed as a decimal.  They may not return
      opaque constants.
 
-The following errors apply to both string and numeral notations:
+.. note::
+   Number or string notations for parameterized inductive types can be
+   added by declaring an :ref:`abbreviation <Abbreviations>` for the
+   inductive which instantiates all parameters. See example below.
+
+The :n:`via` option applies to both string and number notations:
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1744]: I'd move the info on `via` to the Number Notation, where you give the syntax.  It should appear after qualid__type and before "( abstract after bignat )" (i.e., in the order it appears in the Number Notation command.  In String Notation, you can put a similar header for `via` and have it refer to the description in Number Notation.

And the sentence "... option applies" probably not needed.

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 42]
```diff
@@ -1728,16 +1736,62 @@ String notations
...
+
+:n:`via @qualid__ind using ( {+, @qualid__constant @qualid__constructor } )`
+   When using this variant, :n:`@qualid__type` no
+   longer needs to be an inductive. It is mapped to the
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1748]: It?  You mean "the number"?

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 43]
```diff
@@ -1728,16 +1736,62 @@ String notations
...
+   :n:`@qualid__type` is then replaced by :n:`@qualid__ind` in the
+   above parser and printer types.
+
+   When :n:`@qualid__constant` is surrounded by square brackets,
+   the implicit arguments of :n:`@qualid__constant` are ignored
+   when translating to :n:`@qualid__constructor` (i.e., before
+   applying :n:`@qualid__print`) and filled with implicit
+   argument holes :g:`_` when translating from
+   :n:`@qualid__constructor` to :n:`@qualid__constant` (after
+   :n:`@qualid__parse`). See below for an example.
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1763]: Best practice is to provide a hyperlink (maybe on "example") to the example since it's more than a screenful away.

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 44]
```diff
@@ -1728,16 +1736,62 @@ String notations
...
+   constant of type :n:`@qualid__type`
+   (or a function of type :n:`{* _ -> } @qualid__type`) and the second a
+   constructor of type :n:`@qualid__ind`. The type
+   :n:`@qualid__type` is then replaced by :n:`@qualid__ind` in the
+   above parser and printer types.
+
+   When :n:`@qualid__constant` is surrounded by square brackets,
+   the implicit arguments of :n:`@qualid__constant` are ignored
+   when translating to :n:`@qualid__constructor` (i.e., before
+   applying :n:`@qualid__print`) and filled with implicit
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1760]:
```suggestion
   applying :n:`@qualid__print`) and are replaced with implicit
```

Maybe?

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 45]
```diff
@@ -1766,6 +1820,111 @@ The following errors apply to both string and numeral notations:
 
      .. todo note on "single qualified identifiers" https://github.com/coq/coq/pull/11718#discussion_r415076703
 
+.. example:: Number Notation for a non inductive type
+
+   The following example parses and prints :g:`prod unit (prod unit unit)` as :g:`3`.
+   The inductive :g:`I` will be used as :n:`@qualid__ind`.
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1826]: Is this a realistic example?  Realistic examples are better except if it makes the example a lot longer/more complex.  If appropriate, you could say that the example is a bit contrived.  Also, how about informally explaining the `prod` representation?  (Just curious: how do you represent zero and one?)

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 46]
```diff
@@ -1766,6 +1820,111 @@ The following errors apply to both string and numeral notations:
...
+      Check prod unit (prod unit unit).
+
+   and the parser
+
+   .. coqtop:: all
+
+      Set Printing All.
+      Check 3.
+
+.. example:: Number Notation with implicit arguments
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1872]: How about informally describing the number notation used here?

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 47]
```diff
@@ -1766,6 +1820,111 @@ The following errors apply to both string and numeral notations:
...
+
+      Check 2.
+
+   .. coqtop:: all
+
+      Check 2 : Fin.t 3.
+
+   .. coqtop:: all fail
+
+      Check 2 : Fin.t 2.
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1912]: It's not obvious why the one works and the other doesn't.  Can you explain?  Intuitively, I would expect `Check 2 : Fin.t 2.` would work.  Note that I'm not spending too much time to dive deeply into the feature/description.  OTOH, the doc should be much easier to understand than an academic paper, e.g. don't skip explanations.

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 48]
```diff
@@ -1766,6 +1820,111 @@ The following errors apply to both string and numeral notations:
...
+   :g:`list` is given through an :ref:`abbreviation <Abbreviations>`.
+
+   .. coqtop:: in reset
+
+      Notation string := (list Byte.byte) (only parsing).
+      Definition id_string := @id string.
+
+      String Notation string id_string id_string : list_scope.
+
+      Check "abc"%list.
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1926]: I think you want `coqtop:: all` for the Check.

**Review by jfehrle — COMMENTED** [review]
A number of suggestions, some wording and some a bit larger.  Glad you added the examples.  I was expecting something more like reading and printing in base 3, but that's your choice.

Are you planning to squash your changes?  23 commits seems maybe keeping too much detail for later on.  I'll leave it up to you.

**Comment by jfehrle** [comment]
@Zimmi48 Who should review/approve this?  It doesn't need 10 reviewers.  extensible-syntax-maintainers?

File: doc/changelog/03-notations/12218-numeral-notations-non-inductive.rst [hunk 49]
```diff
@@ -0,0 +1,19 @@
...
+  the way rational and real constants are parsed.
+  The exponent is now encoded separately from the fractional part
+  using ``Z.pow_pos``. This way, parsing large exponents can no longer
+  blow up and constants are printed in a form closer to the one they
+  were parsed (i.e., ``102e-2`` is reprinted as such and not ``1.02``).
+- **Removed**
+  OCaml parser and printer for real constants. Real constants are now
+  handled with proven Coq code.
+- **Added:**
+  support for parameterized inductives and non inductives for the
```
Comment (Zimmi48) [inline doc/changelog/03-notations/12218-numeral-notations-non-inductive.rst:13]:
```suggestion
  support for parameterized inductive and non inductive types for the
```

File: doc/changelog/03-notations/12218-numeral-notations-non-inductive.rst [hunk 50]
```diff
@@ -0,0 +1,19 @@
...
+  :ref:`Number Notation <number-notations>` and :ref:`String Notation
+  <string-notations>` commands.
+  (`#12218 <https://github.com/coq/coq/pull/12218>`_,
+  fixes `#12035 <https://github.com/coq/coq/issues/12035>`_,
+  by Pierre Roux, review by Jason Gross and Jim Fehrle for the
+  refman).
```
Comment (Zimmi48) [inline doc/changelog/03-notations/12218-numeral-notations-non-inductive.rst:19]:
```suggestion
  reference manual).
```

**Comment by Zimmi48** [comment]
> @Zimmi48 Who should review/approve this? It doesn't need 10 reviewers. extensible-syntax-maintainers?

This is mostly a PR for @coq/extensible-syntax-maintainers and @coq/reals-library-maintainers.

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 51]
```diff
@@ -1728,16 +1736,62 @@ String notations
...
+   When :n:`@qualid__constant` is surrounded by square brackets,
+   the implicit arguments of :n:`@qualid__constant` are ignored
+   when translating to :n:`@qualid__constructor` (i.e., before
+   applying :n:`@qualid__print`) and filled with implicit
+   argument holes :g:`_` when translating from
+   :n:`@qualid__constructor` to :n:`@qualid__constant` (after
+   :n:`@qualid__parse`). See below for an example.
+
+   .. note::
+      To use a sort as target type :n:`@qualid__type`, use an :ref:`abbreviation <Abbreviations>`
```
[the remark this answers is not in the document]
Comment (proux01) [reply doc/sphinx/user-extensions/syntax-extensions.rst]: Thanks!

File: doc/changelog/03-notations/12218-numeral-notations-non-inductive.rst [hunk 52]
```diff
@@ -0,0 +1,19 @@
...
+  ``Numeral.v``, please use ``Number.v`` instead.
+- **Changed**
+  the way rational and real constants are parsed.
+  The exponent is now encoded separately from the fractional part
+  using ``Z.pow_pos``. This way, parsing large exponents can no longer
+  blow up and constants are printed in a form closer to the one they
+  were parsed (i.e., ``102e-2`` is reprinted as such and not ``1.02``).
+- **Removed**
+  OCaml parser and printer for real constants. Real constants are now
+  handled with proved Coq code.
```
[the remark this answers is not in the document]
Comment (proux01) [reply doc/changelog/03-notations/12218-numeral-notations-non-inductive.rst]: Ok, may I ask you the difference? I always thought that "proved" means "we have a mathematical proof" and "proven" means "we used it a lot, it works".

File: doc/sphinx/user-extensions/syntax-extensions.rst (hunk 41 above)
Comment (proux01) [reply doc/sphinx/user-extensions/syntax-extensions.rst]: I agree, done

File: doc/sphinx/user-extensions/syntax-extensions.rst (hunk 42 above)
Comment (proux01) [reply doc/sphinx/user-extensions/syntax-extensions.rst]: `qualid__type`, I replaced ". It" by "and", hope it's less ambiguous.

File: doc/sphinx/user-extensions/syntax-extensions.rst (hunk 43 above)
Comment (proux01) [reply doc/sphinx/user-extensions/syntax-extensions.rst]: Thanks, done

File: doc/sphinx/user-extensions/syntax-extensions.rst (hunk 45 above)
Comment (proux01) [reply doc/sphinx/user-extensions/syntax-extensions.rst]: I agree the example is a bit artificial, but I don't have any natural example in mind that would not be much longer.
Maybe @JasonGross can think of a less artificial example?

File: doc/sphinx/user-extensions/syntax-extensions.rst (hunk 46 above)
Comment (proux01) [reply doc/sphinx/user-extensions/syntax-extensions.rst:1951]: done

File: doc/sphinx/user-extensions/syntax-extensions.rst (hunk 47 above)
Comment (proux01) [reply doc/sphinx/user-extensions/syntax-extensions.rst]: Indeed, I added more explanations.

File: doc/changelog/03-notations/12218-numeral-notations-non-inductive.rst (hunk 50 above)
Comment (proux01) [reply doc/changelog/03-notations/12218-numeral-notations-non-inductive.rst]: Thanks, done

**Comment by proux01** [comment]
> A number of suggestions, some wording and some a bit larger.

Thanks! All are now addressed.

> Glad you added the examples. I was expecting something more like reading and printing in base 3, but that's your choice.

In fact, I added examples only for the new features, not the basic one. I agree it's not ideal. I offer to add first a comprehensive example for the basic feature, as you suggest with radix 3 numbers. Let me know if you think it's too long (but I don't see any simple way to shorten it).
 
> Are you planning to squash your changes?

No, I took great care of splitting the PR in small commits with a single change in each in order to ease both reviewing and potential further debugging. I think massive squashing would be a loose of all this precious information without much gain.

> 23 commits seems maybe keeping too much detail for later on.

Why?

File: doc/changelog/03-notations/12218-numeral-notations-non-inductive.rst (hunk 52 above)
[the remark this answers is not in the document]
Comment (jfehrle) [reply doc/changelog/03-notations/12218-numeral-notations-non-inductive.rst]: The first source says "Proven as an adjective preceding a noun is standard in both British and American usage" (i.e., this case).

There is some variation in usage as a verb (e.g. "have proved/have proven"), "According the OED, proven is “the usual form [of the past participle] in Scottish English and also the preferred form in current North American English.”

The simple past tense is "proved".

https://www.dailywritingtips.com/proved-vs-proven/
https://www.dictionary.com/e/proved-vs-proven/

**Comment by jfehrle** [comment]
> > Are you planning to squash your changes?

> No, I took great care of splitting the PR in small commits with a single change in each

That was apparent.

> in order to ease both reviewing and potential further debugging. I think massive squashing would be a loose of all this precious information without much gain.

For reviewing, it's much easier for reviewers if the post-review changes are new commits (to be squashed before merging), which makes it possible for reviewers to see only the changes made since their review.  As it is, I would have to read large chunks of the PR again in order to maybe pick out the changes, which I'd rather not do.  There's only so much time in the day.  Generally I don't look at individual commits.

Many of the commits have uninteresting commit names; "Add changelog" doesn't seem at all precious.  That's the only commit that identifies the associated PR, which is useful to know.  Many of the names just say what would be obvious from a quick glance at the changes.  Which commit describes the overall purpose of the PR (e.g. "Add support for non-inductive types and ... in Number/String Notation") and gives helpful non-obvious information about it?

If every PR has 24 commits, it will be very tedious to read the Git log, which people occasionally do.

File: doc/sphinx/user-extensions/syntax-extensions.rst (hunk 45 above)
Comment (JasonGross) [reply doc/sphinx/user-extensions/syntax-extensions.rst]: What about an example that parses and prints `sum unit (sum unit ( .. (sum unit unit) .. ))` as the number of `unit`s, i.e., notations for ad-hoc non-empty finite types of natural-number size?

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 53]
```diff
@@ -1593,6 +1594,31 @@ Number notations
...
+         inductive :n:`@qualid__ind` according to the provided
+         list of pairs, whose first component :n:`@qualid__constant` is a
+         constant of type :n:`@qualid__type`
+         (or a function of type :n:`{* _ -> } @qualid__type`) and the second a
+         constructor of type :n:`@qualid__ind`. The type
+         :n:`@qualid__type` is then replaced by :n:`@qualid__ind` in the
+         above parser and printer types.
+
+         When :n:`@qualid__constant` is surrounded by square brackets,
+         the implicit arguments of :n:`@qualid__constant` are ignored
```
Comment (JasonGross) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1611]: Please specify whether this computation is performed at the numeral notation declaration time or whether it is performed when the notation is used.  (I think it should be the first; it seems bad for `Arguments` to be able to break a numeral notation.)  Please also clarify if there's any difference between maximally inserted implicits and non-maximally-inserted implicits, how constants with multiple options for implicit arguments are treated (such as `eq_refl` in `Arguments eq_refl {A x} , [A] x`), and whether only the leading implicits are considered, or if all implicits are considered.

**Review by JasonGross — CHANGES_REQUESTED** [review]
I started reviewing, but did not get to finish; hopefully I'll have time shortly to add more comments.

**Comment by maximedenes** [comment]
> For reviewing, it's much easier for reviewers if the post-review changes are new commits (to be squashed before merging), which makes it possible for reviewers to see only the changes made since their review. As it is, I would have to read large chunks of the PR again in order to maybe pick out the changes, which I'd rather not do. There's only so much time in the day. Generally I don't look at individual commits.
> 
> Many of the commits have uninteresting commit names; "Add changelog" doesn't seem at all precious. That's the only commit that identifies the associated PR, which is useful to know. Many of the names just say what would be obvious from a quick glance at the changes. Which commit describes the overall purpose of the PR (e.g. "Add support for non-inductive types and ... in Number/String Notation") and gives helpful non-obvious information about it?
> 
> If every PR has 24 commits, it will be very tedious to read the Git log, which people occasionally do.

This seems ill-advised to me. Small commits are good practice, they actually make it easier to read the git log. Commit organization should not be done be done according to a review schedule (GitHub shows the relevant data in the timeline anyway), but rather to the semantics and atomicity of changes.

It took years to convince developers to move from commits like a4043608f704f026de7eb5167a109ca48e00c221 (nothing personal, it is just the most famous example in this repo) to small, self-contained commits. Let's not throw everything away, and I wouldn't like external contributors to take random PR comments as recommendations by the team.

So @proux01, please keep working in small commits as you are doing, they are excellent.

**Comment by jfehrle** [comment]
> Small commits are good practice

You give an extreme example (400+ files).  I think this not so comparable.  More commits, no matter how granular, are always better?  Do you find "Add Changelog" helpful?  It would be helpful to have at least one commit that gives the bigger picture (e.g. "Add support for non-inductive types and ... in Number/String Notation") even if nothing is squashed.

> Commit organization should not be done according to a review schedule (GitHub shows the relevant data in the timeline anyway)

How would you view the diffs when earlier commits have been forced-pushed?  AFAIK you'd need to download the commits, find the version numbers of the earlier commits in the webpage and diff each one separately.  That seems like significant overhead.

**Comment by Zimmi48** [comment]
I also personally support small granular commits *as long as they individually make sense and compile* (and I don't think they make reading the log harder). A commit just adding a changelog entry is perfectly fine (and that's what most developers do). What I don't support are: commits removing or modifying lines that were previously introduced by the same PR; commits fixing bugs introduced by the same PR. In these latter cases, I recommend squashing.

Regarding incremental reviews, GitHub has improved a lot recently, including in case of force-pushing. There are two important features in that respect:

1. You can diff changes, even across a force-push, directly in the web interface. [Example](https://github.com/coq/coq/compare/554c2ebdc0936e9c1030923af2d8ad2a96fab5e7..48b2867eb5c20ee3e18814095fd6edc8fda0a95f). The link is provided as the clickable "force-pushed" in the event timeline.
2. When you review a change, it is convenient to check files that you have fully reviewed as "Viewed". Then, the next time you go to the "Files changed" tab, these files are hidden by default unless they were changed again.

**Comment by maximedenes** [comment]
> More commits, no matter how granular, are always better?

No, obviously.

> Do you find "Add Changelog" helpful?

It does not harm.

> It would be helpful to have at least one commit that gives the bigger picture (e.g. "Add support for non-inductive types and ... in Number/String Notation") even if nothing is squashed.

I doubt it makes sense in general (except for small PRs reduced to one commit). The PR description is here to give the high level picture. We always use merge commits precisely to easily track where small changes (in small, meaningful commits) belong.

> How would you view the diffs when earlier commits have been forced-pushed again?

As @Zimmi48 wrote, GitHub provides specific features for this.

More generally, when you don't know how to do something, or you hit a limitation of the tools, I suggest to ask for advice (I often ask @Zimmi48 for such issues), rather than recommending other contributors to change their workflow, especially when they already follow well-established good practices.

> I also personally support small granular commits _as long as they individually make sense and compile_ (and I don't think they make reading the log harder). A commit just adding a changelog entry is perfectly fine (and that's what most developers do). What I don't support are: commits removing or modifying lines that were previously introduced by the same PR; commits fixing bugs introduced by the same PR. In these latter cases, I recommend squashing.

I follow exactly the same lines (although sometimes I modify lines introduced in a previous commit in the PR, if it makes sense), and I believe it is fairly common practice. I haven't checked if this was written in the contributing guide. If not, it could be useful to mention these recommendations.

**Comment by Zimmi48** [comment]
> I haven't checked if this was written in the contributing guide. If not, it could be useful to mention these recommendations.

No, it's not. PRs welcome :wink:

**Comment by herbelin** [comment]
In any case, let me clarify that our practices and conventions are not absolute values dictated by the core developers, but the result of practices, comparisons with what other projects do, and, actually often, also relatively arbitrary compromises. There are even issues about which compromises have not yet been found (e.g. on the use of `ocamlformat` or on the way to harmoniously collaborate on the development of VsCoq, etc.). All returns of experience are valuable.

**Comment by jfehrle** [comment]
> You can diff changes, even across a force-push, directly in the web interface. Example. The link is provided as the clickable "force-pushed" in the event timeline.

That's an improvement.  I recall raising this issue with GitHub and/or discussing with Théo some months ago.  They should make it more discoverable--the link isn't visible unless you happen to mouse over "force-pushed"

image

This and the other tips would be good to include in a developer/reviewer overview.  They're not obvious.

**Comment by jfehrle** [comment]
@maximedenes 
>More generally, when you don't know how to do something, or you hit a limitation of the tools, I suggest to ask for advice (I often ask @Zimmi48 for such issues)

Obviously.  I frequently ask @Zimmi48 and others.  But this discussion is mostly about a difference of opinion.  That does happen, particularly when there's minimal face to face communication.  And discussion is how you reach consensus, a good thing.

> rather than recommending other contributors to change their workflow, especially when they already follow well-established good practices.

What I said to Pierre was "Are you planning to squash your changes?", which is more in the nature of starting a discussion.  If I definitely wanted them squashed I would have said "Please squash your commits."

@Zimmi48 
> I also personally support small granular commits _as long as they individually make sense and compile_ (and I don't think they make reading the log harder). A commit just adding a changelog entry is perfectly fine (and that's what most developers do). What I don't support are: commits removing or modifying lines that were previously introduced by the same PR; commits fixing bugs introduced by the same PR. In these latter cases, I recommend squashing.

I do lots of small granular commits, perhaps a hundred or more on some PRs.  Most of them are `commit --amend`.  Most things I write are revised several times, bugs are fixed, etc.  In most cases, I've found it's a mess trying to maintain strict semantic separation across multiple commits--to the point of losing changes, doing things twice, etc.  (That's descriptive, not prescriptive for others.)

When I used git in one company (not in GitHub), we were strongly advised to squash our PRs.  We had several hundred developers working on a (I expect) a much larger same code base.  Best practices vary.

@herbelin 
> In any case, let me clarify that our practices and conventions are not absolute values dictated by the core developers, but the result of practices, comparisons with what other projects do, and, actually often, also relatively arbitrary compromises.

Exactly.

File: doc/changelog/03-notations/12218-numeral-notations-non-inductive.rst (hunk 52 above)
[the remark this answers is not in the document]
Comment (proux01) [reply doc/changelog/03-notations/12218-numeral-notations-non-inductive.rst]: So that's more a grammatical than semantic issue, thanks!

File: doc/changelog/03-notations/12218-numeral-notations-non-inductive.rst [hunk 54]
```diff
@@ -0,0 +1,19 @@
+- **Deprecated**
+  ``Numeral.v``, please use ``Number.v`` instead.
+- **Changed**
+  the way rational and real constants are parsed.
```
[the remark this answers is not in the document]
Comment (proux01) [reply doc/changelog/03-notations/12218-numeral-notations-non-inductive.rst:4]: I had remembrance of @Zimmi48 telling me the contrary but couldn't find the message again, so my memory might well be fooling me.
Anyway, although both styles appear in recent changes, complete sentences are far more common, so i'l perform your suggested change, if not told otherwise.

**Comment by proux01** [comment]
> For reviewing, it's much easier for reviewers if the post-review changes are new commits (to be squashed before merging), which makes it possible for reviewers to see only the changes made since their review. As it is, I would have to read large chunks of the PR again in order to maybe pick out the changes, which I'd rather not do. There's only so much time in the day. Generally I don't look at individual commits.

Thanks for your precise answer, and sorry that it triggered such an animated discussion.
Despite github features pointed out by Théo, I understand putting changes in new dedicated commits and squashing them later can make reviewers life easier (if only because it avoids cluttering the history with constant force pushes of all commits again and again). I'll try to commit to this practice from now on.

> Many of the commits have uninteresting commit names; "Add changelog" doesn't seem at all precious.

I would agree if it were in the wild, but remember that, once merge, there will be a commit just after it with the PR number, and the content of the commit describe the PR changes (at least the user visible part of it), so I feel it remains acceptable.

> Many of the names just say what would be obvious from a quick glance at the changes.

I would consider this a quality: no need to look at the changes then. Maybe the message might lack a rationale however, feel free to point it if you have a precise example here.

> Which commit describes the overall purpose of the PR (e.g. "Add support for non-inductive types and ... in Number/String Notation") and gives helpful non-obvious information about it?

None because one adds support for non inducitve types, then another for parameterized inductives, another an example use for R,... Some commit messages might be bad though, for instance, the title of the one adding support for non inductives reads "Adding the via ... using ... option" and only the first sentece tells "This enables numeral notations for non inductive". Maybe should it be the reverse?

> If every PR has 24 commits, it will be very tedious to read the Git log, which people occasionally do.

You may have a point here that this PR is too large. I wanted to include along with the new feature a few example of its use in the standard library (Q and R), in order to motivate the new feature, maybe these examples should have been done in further PRs?

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 55]
```diff
@@ -1593,6 +1594,43 @@ Number notations
...
+         .. note::
+            The implicit status of the arguments is considered
+            only at notation declaration time, any further
+            modification of this status has no impact
+            on the previously declared notations.
+
+         .. note::
+            In case of multiple implicit options (for instance
+            :g:`Arguments eq_refl {A}%type_scope {x}, [_] _`), an
+            argument is considered implicit when it is in any of the
```
Comment (JasonGross) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1627]: Minor:
```suggestion
            argument is considered implicit when it is implicit in any of the
```

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 56]
```diff
@@ -1593,6 +1594,43 @@ Number notations
...
+            options.
+
+         .. note::
+            To use a :token:`sort` as the target type :n:`@qualid__type`, use an :ref:`abbreviation <Abbreviations>`
+            as in :ref:`example below <example-number-notation-non-inductive>`.
```
Comment (JasonGross) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1632]: Minor:
```suggestion
            as in the :ref:`example below <example-number-notation-non-inductive>`.
```

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 57]
```diff
@@ -1629,33 +1667,39 @@ Number notations
             As noted above, the :n:`(abstract after @natural)` directive has no
             effect when :n:`@qualid__parse` lands in an :g:`option` type.
 
+         .. exn:: 'via' and 'abstract' cannot be used together.
+
+            With the :n:`abstract after` option, the parser function
+            :n:`@qualid__parse` does not reduce large numbers to a normal form,
+            which prevents doing the translation given in the :n:`using` list
```
Comment (JasonGross) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1674]: Minor:
```suggestion
            which prevents doing the translation given in the :n:`using` list.
```

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 58]
```diff
@@ -1629,33 +1667,39 @@ Number notations
...
+   .. exn:: @qualid__print should go from @type to Number.int or (option Number.int).  Instead of Number.int, the types Number.uint or Z or Int63.int or Number.number could be used (you may need to require BinNums or Number or Int63 first).
 
      The printing function given to the :cmd:`Number Notation`
      vernacular is not of the right type.
 
-   .. exn:: Unexpected term @term while parsing a numeral notation.
+   .. exn:: Unexpected term @term while parsing a number notation.
 
      Parsing functions must always return ground terms, made up of
      applications of constructors, inductive types, and primitive
```
Comment (JasonGross) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1698]: Are sorts included in this list?  They are included in the list of ground terms below.  I think we should mention here as well whether they are permitted or forbidden.

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 59]
```diff
@@ -1728,16 +1776,37 @@ String notations
...
+
+   .. exn:: Missing mapping for constructor @qualid
+
+      A mapping should be provided for :n:`@qualid` in the :n:`using` list.
+
+   .. warn:: @type was already mapped to @type, mapping it also to @type might yield ill typed terms when using the notation.
+
+      Two pairs in the :n:`using` list associate types that might be incompatible.
+
+   .. warn:: Type of @qualid seem incompatible with the type of @qualid. Expected type is: @type. This might yield ill typed terms when using the notation.
```
Comment (JasonGross) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1803]: Minor: I would suggest using "seems" rather than "seem" for correct grammar, and also mentioning the type that was found, not just the expected type.  (Be sure to change the actual error message too if you change this)

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 60]
```diff
@@ -1766,6 +1835,198 @@ The following errors apply to both string and numeral notations:
...
+
+      Check 3.
+
+.. _example-number-notation-non-inductive:
+
+.. example:: Number Notation for a non inductive type
+
+   The following example parses and prints natural numbers as terms of
+   type :g:`Set` such that :g:`0` stands for :g:`Empty_set`, while :g:`1`
+   is parsed as :g:`unit` and :g:`3` means :g:`prod unit (prod unit unit)`
```
Comment (JasonGross) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1913]: I think you should use `sum`, not `prod`, so that this actually gives you finite types. (`unit * unit` is isomorphic to `unit`, while `unit + unit` has two inhabitants)

**Review by JasonGross — COMMENTED** [review]
I've reviewed the documentation (haven't re-reviewed the code yet, but if someone else wants to review it, feel free to not wait on my review), and it's looking great!  I left a few minor suggestions, and I plan to review the test-suite changes soon, but as far as I'm concerned, if this feature works as advertised and there's nothing to be fixed with the code and there are sufficient test-cases in the test-suite, I'd be very happy to see it merged.

**Comment by jfehrle** [comment]
@Zimmi48 
> You can diff changes, even across a force-push, directly in the web interface. Example. The link is provided as the clickable "force-pushed" in the event timeline.

This feature may not be so useful in practice.  If the PR was rebased, the diff includes all the changes from master.  I tried this on the most recent force-push in #13098.  It reports "108 changed files with 3,389 additions and 3,326 deletions".

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 61]
```diff
@@ -1766,6 +1835,197 @@ The following errors apply to both string and numeral notations:
...
+   .. coqtop:: all fail
+
+      Check 3.
+
+.. _example-number-notation-non-inductive:
+
+.. example:: Number Notation for a non inductive type
+
+   The following example encodes the terms :g:`sum unit ( ... (sum unit unit) ... )`
+   as the number of inhabitants of this type. For instance :g:`sum unit (sum unit unit)`
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1912]:
```suggestion
   The following example encodes the terms in the form :g:`sum unit ( ... (sum unit unit) ... )`
   as the number of inhabitants of this type. For instance :g:`sum unit (sum unit unit)`
```

Maybe simpler to say "as the number of units in the term".  "number of inhabitants of this type" seems a little off

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 62]
```diff
@@ -1766,6 +1835,197 @@ The following errors apply to both string and numeral notations:
...
+   .. coqtop:: all
+
+      Set Printing All.
+      Check 3.
+
+.. _example-number-notation-implicit-args:
+
+.. example:: Number Notation with implicit arguments
+
+   The following examples parses and prints natural numbers between
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1964]:
```suggestion
   The following example parses and prints natural numbers between
```

Or "parse and print" depending.

File: doc/sphinx/user-extensions/syntax-extensions.rst [hunk 63]
```diff
@@ -1766,6 +1835,197 @@ The following errors apply to both string and numeral notations:
...
+      Open Scope radix3_scope.
+      Number Notation radix3 of_uint to_uint : radix3_scope.
+
+   We can check the printer
+
+   .. coqtop:: all
+
+      Check x3p2 (x3p1 x0).
+
+   and the the parser
```
Comment (jfehrle) [inline doc/sphinx/user-extensions/syntax-extensions.rst:1894]:
```suggestion
   and the parser
```

**Review by jfehrle — APPROVED** [review]
A few last suggestions.  The doc looks good, thanks.

**Comment by jfehrle** [comment]
> Thanks for your precise answer, and sorry that it triggered such an animated discussion.

Nothing for you to be sorry about.  A certain amount of passionate discussion is normal.

> Despite github features pointed out by Théo, I understand putting changes in new dedicated commits and squashing them later can make reviewers life easier (if only because it avoids cluttering the history with constant force pushes of all commits again and again). I'll try to commit to this practice from now on.

It is something I've done in my own PRs (particularly documentation updates, which I've been doing a lot of recently).  I haven't yet reviewed PRs that use this approach--I need more experience to evaluate how helpful it is.

> You may have a point here that this PR is too large.

I wasn't trying to say that.  The number of files/changes is a poor metric.  If a PR is complex, hard to understand, has a high risk of introducing bugs or would require many reviewers, then it's often better to split up.  In the end, it's a subjective choice.

I wouldn't spend too much time rejiggering your commits.  Some other examples of IMHO how they might reasonably be less granular: from reading the commit messages and a quick peek at the number of changes, I would consider combining the three commits "R", "Specify R" and "Prove R" if it doesn't make the changes harder to follow.  Similarly "Q", "Specify Q" and "Prove Q" may be candidates to combine.  One might also consider putting all 6 of these into a single commit.

**Comment by Zimmi48** [comment]
> You may have a point here that this PR is too large. I wanted to include along with the new feature a few example of its use in the standard library (Q and R), in order to motivate the new feature, maybe these examples should have been done in further PRs?

No, IMHO this is good to pack everything together. Fortunately, not all PRs are large, but some have good reasons to be this large, or even larger.

>This feature may not be so useful in practice. If the PR was rebased, the diff includes all the changes from master. I tried this on the most recent force-push in #13098. The force-push diff reports "108 changed files with 3,389 additions and 3,326 deletions", whereas "Files changed" lists 20 changed files and less than 100 lines added/deleted.

I don't know how the feature works, but sometimes it works very well (shows only the new modifications) and sometimes it doesn't. Feel free to send feedback to GitHub when you are unhappy about something: https://support.github.com/contact/feedback

**Comment by jfehrle** [comment]
I expect that if the PR was rebased on master, the force-push diff will include all the changes from master.  And if not, it would show only the new modifications.  But GitHub probably can fix that by picking different bases for comparison.

> Feel free to send feedback to GitHub when you are unhappy about something

I did just that, though suggesting improvements and unhappiness are two different things, not necessarily related.

File: doc/changelog/03-notations/12218-numeral-notations-non-inductive.rst (hunk 54 above)
[the remark this answers is not in the document]
Comment (JasonGross) [reply doc/changelog/03-notations/12218-numeral-notations-non-inductive.rst:4]: I think this change request is still pending (and I'm starting another stab at reviewing, though I may not finish tonight)

File: plugins/syntax/number.ml [hunk 64]
```diff
@@ -0,0 +1,479 @@
...
+      params params_indc;
+    indc, indc, Array.to_list a in
+  let pt_refs = get_constructors ty_ind in
+  let to_post_0 = List.map to_post_for_constructor pt_refs in
+  let to_post =
+    let only_copy (_, _, args) = List.for_all ((=) ToPostCopy) args in
+    if (List.for_all only_copy to_post_0) then [||] else [|to_post_0|] in
+  to_post, pt_refs
+
+(* [elaborate_to_post env sigma ty_name ty_ind l] builds the [to_post]
```
Comment (JasonGross) [inline plugins/syntax/number.ml:247]: Is this comment right?  The function name here at least is missing _via

File: plugins/syntax/number.ml [hunk 65]
```diff
@@ -0,0 +1,479 @@
...
+      let indc, cindc =
+        let indc = Smartlocate.global_constructor_with_alias indc in
+        GlobRef.ConstructRef indc, Constr.mkConstruct indc in
+      let get_type c =
+        (* ignore parameters of inductive types *)
+        let rm_params c = match Constr.kind c with
+          | Constr.App (c, _) when Constr.isInd c -> c
+          | _ -> c in
+        let l, t = get_type env sigma c in
+        List.map (fun (n, c) -> n, rm_params c) l, rm_params t in
```
Comment (JasonGross) [inline plugins/syntax/number.ml:274]: Why do you rm_params on the second components of l?  Shouldn't they all be constructors, and hence rm_params would be a no-op?

Comment (JasonGross) [reply plugins/syntax/number.ml:274]: Oh, you rebind l just above this.  I think you should avoid shadowing except in cases where using the previous value is a genuine error, like for env and sigma.  And it's a bit confusing that this let-bound get_type function calls another function called get_type which is not itself....

File: plugins/syntax/number.ml [hunk 66]
```diff
@@ -0,0 +1,479 @@
...
+  let l =
+    let read (consider_implicits, cnst, indc) =
+      let lcnst, lindc = cnst.CAst.loc, indc.CAst.loc in
+      let cnst, ccnst = locate_global_constructor_inductive_or_constant cnst in
+      let indc, cindc =
+        let indc = Smartlocate.global_constructor_with_alias indc in
+        GlobRef.ConstructRef indc, Constr.mkConstruct indc in
+      let get_type c =
+        (* ignore parameters of inductive types *)
+        let rm_params c = match Constr.kind c with
```
Comment (JasonGross) [inline plugins/syntax/number.ml:270]: You might want to whd_all here for the domains of the constructor types.

File: test-suite/output/NumberNotations.v [hunk 67]
```diff
@@ -487,3 +487,314 @@ Check (-0)%Z.
...
+Notation extra_list_unit := (extra_list unit).
+Number Notation extra_list_unit
+        extra_list_unit_of_uint extra_list_unit_to_uint : nat_scope.
+
+Check 2.
+Set Printing All.
+Check 2.
+Unset Printing All.
+
+End Test25.
```
Comment (JasonGross) [inline test-suite/output/NumberNotations.v:800]: Do you want to also handle this test case?
```coq
(* Test the via ... using ... option with let-binders, beta-redexes, delta-redexes, etc *)
Module Test26.

Inductive sum (A : Set) (B : Set) : Set := pair : A -> B -> sum A B.

Inductive I (dummy:=O) :=
| Iempty : let v := I in id v
| Iunit : (fun x => x) I
| Isum : let v := I in (fun A B => A -> B) (let v' := v in v') (forall x : match O with O => I | _ => Empty_set end, let dummy2 := x in I).

Definition of_uint (x : (fun x => let v := I in x) Number.uint) : (fun x => let v := I in x) I :=
  let fix f n :=
      match n with
      | O => Iempty
      | S O => Iunit
      | S n => Isum Iunit (f n)
      end in
  f (Nat.of_num_uint x).

Definition to_uint (x : (fun x => let v := x in v) I) : match O with O => Number.uint | _ => Empty_set end :=
  let fix f i :=
      match i with
      | Iempty => O
      | Iunit => 1
      | Isum i1 i2 => f i1 + f i2
      end in
  Nat.to_num_uint (f x).

Notation nSet := (Set) (only parsing).  (* needed as a reference is expected in Number Notation and Set is syntactically not a reference *)
Number Notation nSet via I using (Empty_set Iempty, unit Iunit, sum Isum)
        of_uint to_uint : type_scope.

Local Open Scope type_scope.

Check Empty_set.
Check unit.
Check sum unit unit. (* does not print correctly *)
Check sum unit (sum unit unit). (* does not print correctly *)
Set Printing All.
Check 0.
Check 1.
Check 2. (* Error:
The term "Iunit" has type "let dummy : nat := O in I"
while it is expected to have type "Set".
*)
Check 3.
Unset Printing All.
End Test26.

(* Test the via ... using ... option with implicit arguments with let binders, etc *)
Module Test27.

Module Fin.
  Inductive t0 (x:=O) :=
  with
    t (x:=O) : forall y : nat, let z := y in Set :=
  | F1 (y:=O) {n} : match y with O => t (S n) | _ => Empty_set end
  | FS (y:=x) {n} (v:=n+y) (m:=n) : id (match y with O => id (t n) | _ => Empty_set end -> (fun x => x) t (S m))
  with t' (x:=O) := .
End Fin.

Inductive I (dummy:=O) :=
| I1 : I
| IS : let x := I in id x -> I.

Definition of_uint (x : Number.uint) : I :=
  let fix f n :=
      match n with
      | O => I1
      | S n => IS (f n)
      end in
  f (Nat.of_num_uint x).

Definition to_uint (x : I) : Number.uint :=
  let fix f i :=
      match i with
      | I1 => O
      | IS n => S (f n)
      end in
  Nat.to_num_uint (f x).

Local Open Scope type_scope.

Number Notation Fin.t via I using ([Fin.F1] I1, [Fin.FS] IS)
  of_uint to_uint : type_scope.
(* Warning: Type of IS seems incompatible with the type of Fin.FS.
Expected type is: (match 0 with
                   | 0 => id (Fin.t _UNBOUND_REL_1)
                   | S _ => Empty_set
                   end -> I) instead of (id I -> I).
This might yield ill typed terms when using the notation.
[via-type-mismatch,numbers]
 *)

Check Fin.F1.
Check Fin.FS Fin.F1.
Check Fin.FS (Fin.FS Fin.F1).
Check Fin.FS (Fin.FS (Fin.FS Fin.F1)).
Check Fin.F1 : Fin.t 3.
Check Fin.FS Fin.F1 : Fin.t 3.
Check Fin.FS (Fin.FS Fin.F1) : Fin.t 3.
Fail Check Fin.FS (Fin.FS (Fin.FS Fin.F1)) : Fin.t 3.
Set Printing All.
Check 0.
Check 1. (* Error:
The term "I1" has type "let dummy : nat := O in I"
while it is expected to have type "@id Set (Fin.t ?n)".
*)
Check 2.
Check 3.
Check 0 : Fin.t 3.
Check 1 : Fin.t 3.
Check 2 : Fin.t 3.
Fail Check 3 : Fin.t 3.
Unset Printing All.

End Test27.
```
```

File: plugins/syntax/number.ml (hunk 66 above)
Comment (JasonGross) [reply plugins/syntax/number.ml:270]: I'm a bit confused why this example works fine except for emitting a warning; does it mean there's some extra work going on here that's only needed for emitting the warning, or have I not crafted a good enough example?
```coq
Module Test28.
Module Fin.
  Inductive t : nat -> Set :=
  | F1 {n : (nat : Set)} : (t (S n) : Set)
  | FS {n : (nat : Set)} : (t n : Set) -> (t (S n) : Set).
End Fin.

Inductive I :=
| I1 : I
| IS : I -> I.

Definition of_uint (x : Number.uint) : I :=
  let fix f n :=
      match n with
      | O => I1
      | S n => IS (f n)
      end in
  f (Nat.of_num_uint x).

Definition to_uint (x : I) : Number.uint :=
  let fix f i :=
      match i with
      | I1 => O
      | IS n => S (f n)
      end in
  Nat.to_num_uint (f x).

Local Open Scope type_scope.

Number Notation Fin.t via I using ([Fin.F1] I1, [Fin.FS] IS)
       of_uint to_uint : type_scope.
(* Warning: Type of IS seems incompatible with the type of Fin.FS.
Expected type is: ((Fin.t _UNBOUND_REL_1 : Set) -> I) instead of
(I -> I). This might yield ill typed terms when using the notation.
[via-type-mismatch,numbers]
*)

Check Fin.F1.
Check Fin.FS Fin.F1.
Check Fin.FS (Fin.FS Fin.F1).
Check Fin.FS (Fin.FS (Fin.FS Fin.F1)).
Check Fin.F1 : Fin.t 3.
Check Fin.FS Fin.F1 : Fin.t 3.
Check Fin.FS (Fin.FS Fin.F1) : Fin.t 3.
Fail Check Fin.FS (Fin.FS (Fin.FS Fin.F1)) : Fin.t 3.
Set Printing All.
Check 0.
Check 1.
Check 2.
Check 3.
Check 0 : Fin.t 3.
Check 1 : Fin.t 3.
Check 2 : Fin.t 3.
Fail Check 3 : Fin.t 3.
Unset Printing All.

End Test28.
```

File: plugins/syntax/number.ml [hunk 68]
```diff
@@ -0,0 +1,479 @@
...
+              | None -> ToPostCopy in
+            let impls = match impls with [] -> [] | _ :: t -> t in
+            t :: map_prod impls b in
+    Array.init nb_ind (fun i ->
+        List.map (fun indc ->
+            let _, cnst, _, _, _, tindc, impls = List.find (eq_indc indc) l in
+            indc, cnst, map_prod impls (fst tindc))
+          (CMap.find (Int.Map.find i num2ind) constructors)) in
+  (* and use constants mapped to constructors of [ty_ind] as triggers. *)
+  let pt_refs = List.map (fun (_, cnst, _) -> cnst) (to_post.(0)) in
```
Comment (JasonGross) [inline plugins/syntax/number.ml:369]: Note that this doesn't quite work if, e.g., you want to support both `list byte` and `list ascii`.  Perhaps this is an extension for the future, though it would be good to document this limitation.

File: test-suite/output/StringSyntax.v [hunk 69]
```diff
@@ -50,3 +50,48 @@ Local Close Scope byte_scope.
...
+
+String Notation nat via I using (O IO, S IS) of_byte to_byte : nat_scope.
+
+Check "000".
+Check "001".
+Check "002".
+Check "255".
+Fail Check "256".
+
+End Test3.
```
Comment (JasonGross) [inline test-suite/output/StringSyntax.v:97]: Another test (which doesn't work as expected):
```suggestion
End Test3.

(* Test overlapping string via notations *)
Module Test4.

Notation string1 := (list Byte.byte).
Definition id_string1 := @id string1.

String Notation string1 id_string1 id_string1 : list_scope.

Notation string2 := (list Ascii.ascii).
Definition a2b := List.map byte_of_ascii.
Definition b2a := List.map ascii_of_byte.

String Notation string2 b2a a2b : list_scope.

Check "abc"%list.
Check ["a";"b";"c"]%char%list : string2. (* "abc" : string2 as expected *)
Check ["a";"b";"c"]%byte%list : string1. (* Unexpected: ["a"%byte; "b"%byte; "c"%byte] : string1 *)
End Test4.
```

File: theories/Init/Numeral.v [hunk 70]
```diff
@@ -8,26 +8,30 @@
...
 (************************************************************************)
 
-(** * Decimal or Hexadecimal numbers *)
+(** * Deprecated: use Number.v instead *)
 
-Require Import Decimal Hexadecimal.
+Require Import Decimal Hexadecimal Number.
 
-Variant uint := UIntDec (u:Decimal.uint) | UIntHex (u:Hexadecimal.uint).
+Notation uint := uint (only parsing).
```
Comment (JasonGross) [inline theories/Init/Numeral.v:15]: Maybe you should deprecate these notations, e.g.,
```suggestion
#[deprecated(since="8.13",note="Use Number.uint instead.")]
Notation uint := uint (only parsing).
```

File: theories/Numbers/DecimalQ.v [hunk 71]
```diff
@@ -15,547 +15,445 @@
...
-        assert (H : forall n d, (nb_digits (Nat.iter n D0 d) = n + nb_digits d)%nat).
-        { now intros n'; induction n'; intro d; [|simpl; rewrite IHn']. }
-        rewrite H, Hl.
-        rewrite Nat.add_succ_r, Nat.sub_add; [|now apply le_S_n; rewrite <-Hl].
-        assert (H' : forall n d, Pos.of_uint (Nat.iter n D0 d) = Pos.of_uint d).
-        { now intro n'; induction n'; intro d; [|simpl; rewrite IHn']. }
-        now unfold anum; case num; simpl; [|intro pnum..];
-          unfold app, Z.of_uint; simpl;
-            rewrite H', ?DecimalPos.Unsigned.of_to.
+unfold IQmake_to_decimal.
```
Comment (JasonGross) [inline theories/Numbers/DecimalQ.v:25]: Minor: I think the standard style is to indent all proof bodies by two spaces

File: theories/Numbers/DecimalQ.v [hunk 72]
```diff
@@ -15,547 +15,445 @@
...
+case d as [i f|i f e]; [now simpl|].
+simpl; case (int_eq_dec (norm e) (Pos zero)); [now intros->|intro He].
+set (i' := match i with Pos _ => _ | _ => _ end).
+set (m := match norm e with Pos Nil => _ | _ => _ end).
+replace m with (DecimalExp i' f (norm e)); [now simpl|].
+unfold m; revert He; case (norm e); clear m e; intro e; [|now simpl].
+now case e; clear e; [|intro e; case e|..].
+Qed.
+
+Lemma dnorm_invol d : dnorm (dnorm d) = dnorm d.
```
Comment (JasonGross) [inline theories/Numbers/DecimalQ.v:212]:
```suggestion
Lemma dnorm_involutive d : dnorm (dnorm d) = dnorm d.
```
I think most involutive properties are written out

**Review by JasonGross — APPROVED** [review]
I've read through the entire thing once more (excluding the proof scripts themselves, and also skimming over some parts a bit), and as far as I'm concerned, this is basically ready for merge.  Great work!  There are a few comments that I've left (all as stand-alone comments) that I think it would be good to address before merging this, and I've suggested a couple more test-suite cases, and I think someone more familiar with OCaml and Coq conventions should definitely review the changes (and it looks like the PR needs to be rebased), but I'm looking forward to having this monster of a PR merged.

Should I assign?  Should someone else be assignee?

**Comment by Zimmi48** [comment]
It's reasonable for you to be the assignee, I think.

**Comment by JasonGross** [comment]
Assigned.  We still need reviews from a bunch of reviewers  (@coq/extensible-syntax-maintainers, @coq/parsing-maintainers, @coq/reals-library-maintainers, @coq/stdlib-maintainers, @coq/ltac-maintainers, @coq/ssreflect-maintainers).  Should I be poking them to review?

File: plugins/syntax/number.ml (hunk 65 above)
Comment (proux01) [reply plugins/syntax/number.ml]: fixed

File: plugins/syntax/number.ml (hunk 66 above)
Comment (proux01) [reply plugins/syntax/number.ml:271]: > does it mean there's some extra work going on here that's only needed for emitting the warning

Indeed, the types of `Fin.F1` and `Fin.FS` are used only to emit warnings. The notation itself is only based on the types of `I1` and `IS`.

> You might want to whd_all here for the domains of the constructor types.

Indeed, that fixed the warning.

File: test-suite/output/NumberNotations.v (hunk 67 above)
Comment (proux01) [reply test-suite/output/NumberNotations.v:800]: Added to the test-suite (and fixed by your previous comment).

File: theories/Init/Numeral.v (hunk 70 above)
Comment (proux01) [reply theories/Init/Numeral.v:16]: Indeed, thanks!

File: theories/Numbers/DecimalQ.v (hunk 71 above)
Comment (proux01) [reply theories/Numbers/DecimalQ.v]: At least, that's what was done in the file before, so reindenting as you suggest.

File: theories/Numbers/DecimalQ.v (hunk 72 above)
Comment (proux01) [reply theories/Numbers/DecimalQ.v]: Right

**Comment by Zimmi48** [comment]
Yes, although as an assignee, it will be your call to decide whether to do without their reviews if they do not respond after a reasonable delay.

File: plugins/syntax/number.ml (hunk 68 above)
Comment (proux01) [reply plugins/syntax/number.ml:370]: Hum, looks like another bug (c.f. next comment).

File: test-suite/output/StringSyntax.v (hunk 69 above)
Comment (proux01) [reply test-suite/output/StringSyntax.v:97]: Good catch! In fact declaring a primitive notation on some trigger (here list constructors) removed all previous ones in the same scope. Fixed.

**Comment by proux01** [comment]
> I've read through the entire thing once more (excluding the proof scripts themselves,

Sure, those are not meant to be read.

> There are a few comments that I've left (all as stand-alone comments) that I think it would be good to address before merging this, and I've suggested a couple more test-suite cases

Thanks! They should now be adressed.

> it looks like the PR needs to be rebased

Let me know when you want me to squash and rebase.

**Review by JasonGross — APPROVED** [review]
Thanks!  I believe the only remaining unaddressed comment of mine is about the phrasing of sentences in the changelog.  Please do rebase now.  Feel free to squash the review-addressing commits (and whatever else you want to squash) now, or after we get other reviews; I'll see about getting others to review this PR.

**Comment by proux01** [comment]
squashed

**Comment by proux01** [comment]
rebased

**Comment by proux01** [comment]
> We still need reviews from a bunch of reviewers [...]

Looking more closely at this list:
* @ coq/ssreflect-maintainers : the only change is a renaming of Constrexpr.Numeral into Constrexpr.Number, so removing the request for review
* @ coq/ltac-maintainers : again, just a straightforward renaming, so removing the request for review
* @ coq/parsing-maintainers : again, just renamings, so removing the request for review
* @coq/stdlib-maintainers : you may be interested in having a look to the change in parsing `QArith` constants (c.f., changelong https://github.com/coq/coq/pull/12218/commits/388fa4a3ab8d1628eda39f6cae385bd22ce7ebc6 and commit message of https://github.com/coq/coq/pull/12218/commits/7c932f69b9d7572d0233f269985143bfdbb6a32d )
* @coq/reals-library-maintainers : it seems to me they mostly agree with the change, Guillaume Melquiond left a comment  https://github.com/coq/coq/pull/12218#issuecomment-681976934 giving ideas for a further PR
* @coq/extensible-syntax-maintainers : probably the most affected by the core of this PR

**Comment by herbelin** [comment]
>  I'll see about getting others to review this PR.

Sorry for the delay, I was a little scared by the impressive size of PR and the length of the discussion. This is very good job.

The size of the PR seems actually in large part related to the numeral vs number change. Personally, both are ok to me. If I understood correctly the dilemma was about being technically more precise vs being more intuitive? Plus the impact on end-users having to change their scripts?

Then, would it be easy,  such as the commits are organized, to split the PR into the renaming part and the part providing notations for non-inductive types (in whatever order of dependency which is the most convenient), so that reviewing is easier?

Then, on the support of notations for non-inductive types, there are 4 contributions if I understand correctly:
- support for types with generic parameters such as `Fin.t`: this is very cool!
- support for types with actual parameters such as `list Byte`: this is clearly useful but I'd somehow like to understand why a proxy would have to be given
- better support for numbers in `Q`: that looks great
- better and certified support for numbers in `R`: that looks absolutely great too

About the syntax:
- renamings of the form `invol` -> `involutive` looks good to me: this produces a clearer code
- in the naming vein, I stumbled on `Dec` as shortening of `Decimal`, in particular because I'm used to see `dec` as a shortening of `decidable`; would it be a worry to keep `Decimal` in full when possible?
- when reading the `using` clause, my first impression was to see a list of applied terms rather than a list of pairs of names, would it make sense to add an explicit separating symbol suggesting that these are bindings, maybe `:=`, or replace `,` with `;` and write pairs as `IZR, IRZ`?

**Comment by proux01** [comment]
> The size of the PR seems actually in large part related to the numeral vs number change.

Yes, bu it was already large before the change, due to the proofs for the parser/printers for Q and R.

> Personally, both are ok to me. If I understood correctly the dilemma was about being technically more precise vs being more intuitive? Plus the impact on end-users having to change their scripts?

That's also my understanding.
 
> Then, would it be easy, such as the commits are organized, to split the PR into the renaming part and the part providing notations for non-inductive types (in whatever order of dependency which is the most convenient), so that reviewing is easier?

In fact, the renaming, should already have taken place in #12979 but this required overlays largely overlapping with the ones in the current PR, hence the integration in this PR. I agree it's not ideal.

> * support for types with actual parameters such as `list Byte`: this is clearly useful but I'd somehow like to understand why a proxy would have to be given

No fundamental reason but a more intuitive syntax would require some extra work / more complex code. Not sure this is worth the extra effort for a command that is not commonly used.

> * in the naming vein, I stumbled on `Dec` as shortening of `Decimal`, in particular because I'm used to see `dec` as a shortening of `decidable`; would it be a worry to keep `Decimal` in full when possible?

Right, this was already present in 8.12, so a deprecation is required but this is perfectly feasible, done.

> * when reading the `using` clause, my first impression was to see a list of applied terms rather than a list of pairs of names, would it make sense to add an explicit separating symbol suggesting that these are bindings, maybe `:=`, or replace `,` with `;` and write pairs as `IZR, IRZ`?

I understand. Both choices look good to me. I have a small preference for `:=`. @JasonGross @jfehrle any opinion ?

**Comment by jfehrle** [comment]
I have no opinion.

**Comment by JasonGross** [comment]
> I understand. Both choices look good to me. I have a small preference for `:=`. @JasonGross @jfehrle any opinion ?

I have a slight preference for `,` and `;`.  (I think another alternative is `=>`)

**Comment by herbelin** [comment]
@proux01: thanks for your comments.

> I have a slight preference for `,` and `;`. (I think another alternative is `=>`)

I would find `=>` nice.

Another question is about `using`. Would e.g. `mapping` be better?

Also, I wonder if the via using clause should not come after the converter. Since the meaning of converters only come from their position, one may wonder what their rôle is after the using (are there part of the using?). So, something like:
```
Number Notation R numeral_to_IR IR_to_numeral via IR
  using (IZR => IRZ, Q2R => IRQ, Rmult => IRmult, Rdiv => IRdiv,
         Z.pow_pos => IZpow_pos, Z0 => IZ0, Zpos => IZpos, Zneg => IZneg)
 : R_scope.
```
or maybe, trying an analogy with `Notation` modifiers:
```
Number Notation R numeral_to_IR IR_to_numeral (via IR
  using IZR => IRZ, Q2R => IRQ, Rmult => IRmult, Rdiv => IRdiv,
        Z.pow_pos => IZpow_pos, Z0 => IZ0, Zpos => IZpos, Zneg => IZneg)
 : R_scope.
```
or, continuing brainstorming to see what could emerge:
```
Number Notation R numeral_to_IR IR_to_numeral (via IR
  mapping IZR => IRZ, Q2R => IRQ, Rmult => IRmult, Rdiv => IRdiv,
          Z.pow_pos => IZpow_pos, Z0 => IZ0, Zpos => IZpos, Zneg => IZneg)
 : R_scope.
```
or:
```
Number Notation R numeral_to_IR IR_to_numeral (via IR
  mapping [IZR => IRZ, Q2R => IRQ, Rmult => IRmult, Rdiv => IRdiv,
           Z.pow_pos => IZpow_pos, Z0 => IZ0, Zpos => IZpos, Zneg => IZneg])
 : R_scope.
```
or, since the `IR` is inferable from `numeral_to_IR`:
```
Number Notation R numeral_to_IR IR_to_numeral
  (mapping IZR => IRZ, Q2R => IRQ, Rmult => IRmult, Rdiv => IRdiv,
           Z.pow_pos => IZpow_pos, Z0 => IZ0, Zpos => IZpos, Zneg => IZneg)
 : R_scope.
```
or, considering that `=>` is enough to signify that it is a mapping:
```
Number Notation R numeral_to_IR IR_to_numeral
  (IZR => IRZ, Q2R => IRQ, Rmult => IRmult, Rdiv => IRdiv,
   Z.pow_pos => IZpow_pos, Z0 => IZ0, Zpos => IZpos, Zneg => IZneg)
 : R_scope.
```
with the drawback that it somehow reserves the parentheses to only this usage (are there possible extensions in sight which would require additional modifiers)?

**Comment by proux01** [comment]
rebased

**Comment by proux01** [comment]
> I would find `=>` nice.

Me too, done.

> ```
> Number Notation R numeral_to_IR IR_to_numeral (via IR
>   mapping [IZR => IRZ, Q2R => IRQ, Rmult => IRmult, Rdiv => IRdiv,
>            Z.pow_pos => IZpow_pos, Z0 => IZ0, Zpos => IZpos, Zneg => IZneg])
>  : R_scope.
> ```

I chose this one. Thanks for the suggestions, it indeed looks clearer and more uniform with regular notations.

> or, since the `IR` is inferable from `numeral_to_IR`:

I'd rather keep it explicit, it's not a huge burden and its some nice information to keep explicit I think.

> (are there possible extensions in sight which would require additional modifiers)?

Note that we already have `warning after` and `abstract after`.

**Review by JasonGross — APPROVED** [review]
The new changes look good to me (though I haven't looked carefully to, e.g., make sure there aren't any remaining bits in the documentation that refer to the old syntax)

**Comment by JasonGross** [comment]
I'm inclined to merge this once @herbelin approves (or requests more changes and those changes are made and then approves, or however many rounds are needed); it looks like @herbelin is on @coq/stdlib-maintainers and @coq/reals-library-maintainers and @coq/extensible-syntax-maintainers, which are the three teams impacted by this PR, and it's been over a week since my call for reviews (which I think is enough time for people to at least comment if they want a chance to review before this is merged).

**Comment by JasonGross** [comment]
Er, well, once @herbelin approves and the relevant squashing is done and the CI passes.

File: theories/Reals/Rdefinitions.v [hunk 73]
```diff
@@ -224,3 +225,165 @@ Proof.
...
+
+(**********************************************************)
+(** *    Number notation for constants                    *)
+(**********************************************************)
+
+Inductive IR :=
+| IRZ : IZ -> IR
+| IRQ : Q -> IR
+| IRmult : IR -> IR -> IR
+| IRdiv : IR -> IR -> IR.
```
Comment (herbelin) [inline theories/Reals/Rdefinitions.v:241]: Nitpicking: the stdlib uses preferentially an indentation of 2 here (~1850 occurrence vs ~560 occurrences, and 34 vs 3 in Reals).
```suggestion
  | IRZ : IZ -> IR
  | IRQ : Q -> IR
  | IRmult : IR -> IR -> IR
  | IRdiv : IR -> IR -> IR.
```

File: theories/QArith/QArith_base.v [hunk 74]
```diff
@@ -335,6 +240,188 @@ Register Qminus as rat.Q.Qminus.
...
+Inductive IZ :=
+| IZpow_pos : Z -> positive -> IZ
+| IZ0 : IZ
+| IZpos : positive -> IZ
+| IZneg : positive -> IZ.
+
+Inductive IQ :=
+| IQmake : IZ -> positive -> IQ
+| IQmult : IQ -> IQ -> IQ
+| IQdiv : IQ -> IQ -> IQ.
```
Comment (herbelin) [inline theories/QArith/QArith_base.v:254]: Idem indentation: (28 occurrences with indentation vs 0 in QArith).
```suggestion
Inductive IZ :=
  | IZpow_pos : Z -> positive -> IZ
  | IZ0 : IZ
  | IZpos : positive -> IZ
  | IZneg : positive -> IZ.

Inductive IQ :=
  | IQmake : IZ -> positive -> IQ
  | IQmult : IQ -> IQ -> IQ
  | IQdiv : IQ -> IQ -> IQ.
```

File: doc/changelog/03-notations/12218-numeral-notations-non-inductive.rst [hunk 75]
```diff
@@ -0,0 +1,19 @@
+- **Deprecated**
+  ``Numeral.v`` is deprecated, please use ``Number.v`` instead.
+- **Changed**
+  Rational and real constants are parsed differently.
+  The exponent is now encoded separately from the fractional part
+  using ``Z.pow_pos``. This way, parsing large exponents can no longer
+  blow up and constants are printed in a form closer to the one they
+  were parsed (i.e., ``102e-2`` is reprinted as such and not ``1.02``).
+- **Removed**
+  OCaml parser and printer for real constants has been removed.
```
Comment (herbelin) [inline doc/changelog/03-notations/12218-numeral-notations-non-inductive.rst:10]: has -> have??
```suggestion
  OCaml parser and printer for real constants have been removed.
```

**Review by herbelin — APPROVED** [review]
> * @coq/stdlib-maintainers : you may be interested in having a look to the change in parsing `QArith` constants (c.f., changelong https://github.com/coq/coq/pull/12218/commits/388fa4a3ab8d1628eda39f6cae385bd22ce7ebc6 and commit message of https://github.com/coq/coq/pull/12218/commits/7c932f69b9d7572d0233f269985143bfdbb6a32d )

Looks good to me (see suggestions for conventions).

> * @coq/reals-library-maintainers : it seems to me they mostly agree with the change, Guillaume Melquiond left a comment  https://github.com/coq/coq/pull/12218#issuecomment-681976934 giving ideas for a further PR

Looks good to me (see suggestions for conventions). @silene's suggestion looks good.

> * @coq/extensible-syntax-maintainers : probably the most affected by the core of this PR

I survey globally but not in the details. My preference would be to go ahead. It shall still be possible to do further change afterwards if needed.

All in all, this is impressive job.

**Comment by Zimmi48** [comment]
CI is "morally green"

**Comment by JasonGross** [comment]
@coqbot: merge

**Comment by JasonGross** [comment]
@coqbot: merge now

**Comment by JasonGross** [comment]
@proux01 can you mark the overlays as ready for merge and request that they be merged?

**Comment by proux01** [comment]
sure

**Comment by proux01** [comment]
All overlays are now merged.

Thanks @JasonGross , @herbelin and @jfehrle , your reviews greatly improved the initial proposal!
Thanks also to all others who took part in the discussion!

**Comment by proux01** [comment]
@JasonGross FYI, this is now used in MathComp: https://github.com/math-comp/math-comp/pull/841 and https://github.com/math-comp/math-comp/pull/832
The integration went seamlessly, in great part thanks to the improvements you suggested in your review here, so thanks again!
